2179-03-11 06:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Got arterial line
   Volume resuscitated w/ 3L LR and became hypernatremic w hyperchloremic
   acidosis
   Gradually progressing respiratory distress
   Started on vancomycin and meropenem
   Surgery consulted and pt. not surgical right now.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-10**] 08:40 PM
   Meropenem - [**2179-3-11**] 05:21 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2179-3-10**] 10:15 PM
   Heparin Sodium (Prophylaxis) - [**2179-3-11**] 12:14 AM
   Pantoprazole (Protonix) - [**2179-3-11**] 02:00 AM
   Fentanyl - [**2179-3-11**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Continues to complain of severe abdominal pain
   Flowsheet Data as of  [**2179-3-11**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 112 (112 - 130) bpm
   BP: 128/69(104) {18/6(11) - 178/73(110)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 11 (4 - 12)mmHg
   Total In:
                                                                  3,968 mL
                                                                    809 mL
   PO:
   TF:
   IVF:
                                                                  3,928 mL
                                                                    749 mL
   Blood products:
                                                                     40 mL
                                                                     60 mL
   Total out:
                                                                    575 mL
                                                                    530 mL
   Urine:
                                                                    575 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,393 mL
                                                                    279 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 96%
   ABG: 7.33/40/126/19/-4
   PaO2 / FiO2: 180
   Physical Examination
   Gen: Awake but disoriented to time, moderate respiratory distress using
   accessory muscles, writhing w/ pain
   Heart: Tachycardic, regular, no obvious murmurs
   Lungs: Scant crackles in bases bilaterally
   Abd: Soft, NT, ND, BS+
   Ext: No edema, no sacral edema, 2+ peripheral pulses
   Labs / Radiology
   190 K/uL
   9.3 g/dL
   231 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.7 mEq/L
   18 mg/dL
   121 mEq/L
   150 mEq/L
   28.6 %
   15.8 K/uL
        [image002.jpg]
                             [**2179-3-10**]  08:41 PM
                             [**2179-3-10**]  08:49 PM
                             [**2179-3-10**]  10:52 PM
                             [**2179-3-11**]  01:02 AM
                             [**2179-3-11**]  01:08 AM
                             [**2179-3-11**]  03:55 AM
                             [**2179-3-11**]  04:11 AM
   WBC
   20.0
   16.6
   15.8
   Hct
   31.0
   29.0
   28.6
   Plt
   223
   199
   190
   Cr
   1.0
   1.0
   0.9
   TCO2
   20
   18
   22
   22
   Glucose
   [**Telephone/Fax (3) 5158**]
   Other labs: PT / PTT / INR:13.9/30.9/1.2, ALT / AST:11/43, Alk Phos / T
   Bili:47/0.7, Amylase / Lipase:1118/1057, Differential-Neuts:91.9 %,
   Lymph:5.2 %, Mono:2.9 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.8
   g/dL, LDH:575 IU/L, Ca++:6.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   This is a 76 yo F with hyperlipidemia and chronic abd. pain, N/V who
   presents with severe post ERCP pancreatitis and borderline shock
   physiology.
   .
   #. Pancreatitis: Still requiring significant fluid support to keep CVP
   up.
   - Aggressive volume resuscitation w/ LR to goal CVP 12
   -Appreciate Surgery recs
   -NPO
   -ABX with vanc/meropenem
   -Blood cx
   -Trend blood pH with ABGs
   -Elective intubation for
   -Low threshhold for intubation
   -Aggressive electrolyte repletion, including calcium with Q6 calcium
   checks
   -Trend [**Doctor First Name 92**]/lipase
   #Respiratory distress: Likely becoming fluid overloaded w/ aggressive
   diuresis, CXR more opaque
   -          elective intubation to allow more aggressive fluid
   resuscitation
   # Hypernatremia/Hyperchloremia: Will increase D5W to 200cc baseline to
   increase free water intake.
   .
   #. Anemia: Stable, Hct not trending up or down very quickly
   - Monitor Hct
   .
   #. Hypothyroidism: Switch levothyroxine to IV since NPO.
   .
   .
   FEN: IVF, NPO
   .
   PPX:
   -DVT ppx with HSC
   -Pain management with IV dilaudid
   .
   ACCESS: 2 PIV, RIJ TLC, R-Aline
   .
   CODE STATUS: Confirmed Full
   .
   EMERGENCY CONTACT: [**Name (NI) 5152**] (daughter) [**Telephone/Fax (1) 5153**] (cell)
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-3-10**] 05:45 PM
   22 Gauge - [**2179-3-10**] 05:47 PM
   20 Gauge - [**2179-3-10**] 05:48 PM
   Arterial Line - [**2179-3-10**] 10:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Correction to physical exam
   Abd was exquisitely tender to palpation with mild guarding, bowel
   sounds were hypoactive
   ------ Protected Section Addendum Entered By:[**Name (NI) 5174**] [**Last Name (NamePattern1) 684**], MD
   on:[**2179-3-12**] 06:14 ------

2179-03-11 09:20:00 Physician Attending Progress Note
Chief Complaint: Acute pancreatitis, resp. distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight continued to receive iv fluids, urine output improved.
   Continues with significant abd pain.
   More dyspeic this AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-3-11**] 05:21 AM
   Vancomycin - [**2179-3-11**] 07:41 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2179-3-10**] 10:15 PM
   Pantoprazole (Protonix) - [**2179-3-11**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2179-3-11**] 08:10 AM
   Fentanyl - [**2179-3-11**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis, No(t) Diarrhea,
   No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-3-11**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.4
   HR: 122 (112 - 130) bpm
   BP: 171/71(107) {18/6(11) - 178/73(112)} mmHg
   RR: 25 (12 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 5 (4 - 12)mmHg
   Total In:
                                                                  3,968 mL
                                                                  1,097 mL
   PO:
   TF:
   IVF:
                                                                  3,928 mL
                                                                  1,037 mL
   Blood products:
                                                                     40 mL
                                                                     60 mL
   Total out:
                                                                    575 mL
                                                                    855 mL
   Urine:
                                                                    575 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,393 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.33/40/126/19/-4
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, Tender: diffuse, No(t) Obese, rebound
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   190 K/uL
   231 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.7 mEq/L
   18 mg/dL
   121 mEq/L
   150 mEq/L
   28.6 %
   15.8 K/uL
        [image002.jpg]
                             [**2179-3-10**]  08:41 PM
                             [**2179-3-10**]  08:49 PM
                             [**2179-3-10**]  10:52 PM
                             [**2179-3-11**]  01:02 AM
                             [**2179-3-11**]  01:08 AM
                             [**2179-3-11**]  03:55 AM
                             [**2179-3-11**]  04:11 AM
   WBC
   20.0
   16.6
   15.8
   Hct
   31.0
   29.0
   28.6
   Plt
   223
   199
   190
   Cr
   1.0
   1.0
   0.9
   TCO2
   20
   18
   22
   22
   Glucose
   [**Telephone/Fax (3) 5158**]
   Other labs: PT / PTT / INR:13.9/30.9/1.2, ALT / AST:11/43, Alk Phos / T
   Bili:47/0.7, Amylase / Lipase:1118/1057, Differential-Neuts:91.9 %,
   Lymph:5.2 %, Mono:2.9 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.8
   g/dL, LDH:575 IU/L, Ca++:6.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Acute pancreatitis, necrotozing, s/p ERCP
   RESPIRATORY DISTRESS -- multifactorial, likely attributed to by
   intra-abdominal pain, acidosis, fluid resussitation, evolving pleural
   effusions, and possible evolving ARDS.  Monitor respiratory status (RR,
   SaO2, ABG), plan for elective intubation.
   TACHYCARDIA -- multifactorial, including actue pancreatitis, pain,
   intravascular depletion (third spacing), possible blood loss.  Doubt
   primary cardiac event.  Monitor, treat underlying process.
   FLUIDS -- good resussitation overnight, with improved CVP and urine
   output.  Now CVP= [**2-11**] suggestive of hypovolemic due to ongoing
   intraabdominal inflammation (3rd spacing in context of acute
   pancreatitis, necrotizing).  Plan continue to fluid bolus to CVP>12 cm
   H2O.  Need to avoid hypoperfusion and organ dysfunction.  Need to
   change central line
   ACUTE PANCREATITIS -- clinical presentation, blood work and ABD CT
   findings consistent with acute necrotizing pancreatits, severe.  Likely
   related to ERCP, perhaps on background of chronic pancreatits (?related
   to hyperlipidemia).  Guarded condition, at risk for clinical decline.
   Will require vigorous volume resussitation (extensive 3rd spacing due
   to intraabdominal inflammation), vigorous electrolyte repletion (esp K,
   Ca) --> may require Ca drip.  Empirical antimicrobials (elevated WBC
   and significant bandemia), including meropenem.  General Surgery
   consultation to follow.
   RENAL FUNCTION -- declining urine output likely reflects intravascular
   depletion (SG= 1.030) on background of mild renal insufficiency.
   Continue iv fluids, monitor BUN creat, uo.
   HYPERNATREMIA -- likely due to resussitation fliuds.  Plan provide free
   H2O.
   ACIDOSIS -- Declining HCO3, likley reflect pancreatitis, renal
   insufficincy.  Follow ABG.  Consider HCO3 infusion.
   NUTRITIONAL SUPPORT -- NPO.  Would start TPN if remains NPO.  Consider
   trophic tube feedings (10 cc/hr).
   HYPOCALCEMIA -- check ionoized calcium; replete, may need iv infusion
   ANEMIA -- decline in Hct may in part reflect iv fliuds, but at risk for
   bleeding.  Would re-image abdomen to r/o hemorrhage into pancreatic
   bed.
   WBC/bandemia -- resolving.  Concern for infectious complication of
   pancreatitis.  Obtain cultures and start continue empirical
   antimicrobials.
   PAIN MANAGEMENT -- optimize pain mangement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-3-10**] 05:45 PM
   22 Gauge - [**2179-3-10**] 05:47 PM
   20 Gauge - [**2179-3-10**] 05:48 PM
   Arterial Line - [**2179-3-10**] 10:26 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2179-03-12 06:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Urine output dropped to below 50cc/hour
   Abd became more tense-bladder pressure was 15, surgery evaluated
   CVP dropped to 8
   Received total 2L LR w/ 1L D5
   Telemetry: bursts of SVT
   CVP this am 15
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-11**] 08:05 PM
   Meropenem - [**2179-3-12**] 05:45 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Fentanyl - [**2179-3-11**] 08:26 AM
   Heparin Sodium (Prophylaxis) - [**2179-3-11**] 04:39 PM
   Midazolam (Versed) - [**2179-3-11**] 07:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-12**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.4
C (97.6
   HR: 118 (107 - 139) bpm
   BP: 129/56(79) {122/52(75) - 176/78(112)} mmHg
   RR: 13 (13 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 14 (5 - 17)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  8,091 mL
                                                                    465 mL
   PO:
   TF:
   IVF:
                                                                  8,031 mL
                                                                    465 mL
   Blood products:
                                                                     60 mL
   Total out:
                                                                  2,285 mL
                                                                    325 mL
   Urine:
                                                                  2,285 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,806 mL
                                                                    140 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 576 (551 - 576) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 33
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.37/39/84.[**Numeric Identifier 1132**]/21/-2
   Ve: 7.7 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Gen: Sedated, nonresponsive, on vent
   HEENT: Pinpoint pupils bilaterally, ETT in place
   Heart: Tachycardic, regular, no MRG
   Lungs: Clear anteriorly
   Abd: Tense-more so than yesterday, BS absent, pt. not responding to
   stimuli
   Ext: Trace LE edema, extremities cold
   Labs / Radiology
   188 K/uL
   8.9 g/dL
   155 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.9 mEq/L
   9 mg/dL
   118 mEq/L
   146 mEq/L
   34
   13.5 K/uL
        [image002.jpg]
                             [**2179-3-11**]  10:25 AM
                             [**2179-3-11**]  10:47 AM
                             [**2179-3-11**]  11:49 AM
                             [**2179-3-11**]  04:22 PM
                             [**2179-3-11**]  04:37 PM
                             [**2179-3-11**]  06:41 PM
                             [**2179-3-11**]  09:11 PM
                             [**2179-3-11**]  10:35 PM
                             [**2179-3-12**]  02:11 AM
                             [**2179-3-12**]  02:26 AM
   WBC
   13.3
   13.5
   Hct
   25.6
   26.6
   34
   Plt
   176
   188
   Cr
   0.8
   0.8
   0.8
   0.7
   TCO2
   23
   22
   24
   22
   23
   23
   Glucose
   171
   169
   219
   155
   Other labs: PT / PTT / INR:13.9/30.9/1.2, ALT / AST:11/43, Alk Phos / T
   Bili:47/0.7, Amylase / Lipase:513/337, Differential-Neuts:91.9 %,
   Lymph:5.2 %, Mono:2.9 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:575 IU/L, Ca++:6.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   This is a 76 yo F with  post ERCP necrotic pancreatitis electively
   intubated to allow fluid resuscitation.
   .
   #. Pancreatitis: No longer requiring fluid to maintain CVP and UOP.
   Abd tense, will watch bladder pressures closely.
   - Consider repeat imaging of pancreas to look for phlegmon/indications
   for surgery
   - IVF boluses for UOP<50
   -Appreciate Surgery recs
   -NPO
   -ABX with vanc/meropenem
   -Blood cx
   -Trend blood pH with ABGs
   -Aggressive electrolyte repletion, including calcium with Q6 calcium
   checks
   -Trend [**Doctor First Name 92**]/lipase
   #Respiratory distress: Likely becoming fluid overloaded w/ aggressive
   diuresis, CXR more opaque
   -          Continue intubated for now as HD stability is tenuous
   #Sedation: Pt. in extreme pain when awake, will likely need to continue
   deep sedation for now given level of pain, but would continue daily
   wake ups
   - fentanyl midazolam
   - daily wake ups
   # Hypernatremia/Hyperchloremia: Improved.
   .
   #. Anemia: Stable, Hct not trending up or down very quickly
   - Monitor Hct
   .
   #. Hypothyroidism: levothyroxine IV since NPO.
   .
   .
   FEN: IVF, NPO
   .
   PPX:
   -DVT ppx with HSC
   -Pain management fentanyl boluses
   .
   ACCESS: 2 PIV, RIJ TLC, R-Aline
   .
   CODE STATUS: Confirmed Full
   .
   EMERGENCY CONTACT: [**Name (NI) 5152**] (daughter) [**Telephone/Fax (1) 5153**] (cell)
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2179-3-10**] 05:47 PM
   20 Gauge - [**2179-3-10**] 05:48 PM
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-03-12 13:03:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Sedated.
   Checking bladder pressures, now 15 cm H2O.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-3-12**] 05:45 AM
   Vancomycin - [**2179-3-12**] 09:21 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2179-3-11**] 07:25 PM
   Heparin Sodium (Prophylaxis) - [**2179-3-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-14**] Moderate
   Pain location: abdomen, diffuse
   Flowsheet Data as of  [**2179-3-12**] 01:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 124 (107 - 124) bpm
   BP: 123/60(79) {121/52(75) - 175/73(107)} mmHg
   RR: 11 (11 - 20) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 20 (5 - 20)mmHg
   Bladder pressure: 12 (12 - 19) mmHg
   Total In:
                                                                  8,091 mL
                                                                  1,143 mL
   PO:
   TF:
   IVF:
                                                                  8,031 mL
                                                                  1,143 mL
   Blood products:
                                                                     60 mL
   Total out:
                                                                  2,285 mL
                                                                    767 mL
   Urine:
                                                                  2,285 mL
                                                                    767 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,806 mL
                                                                    376 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 497 (497 - 576) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 33
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.28/49/90.[**Numeric Identifier 433**]/22/-3
   Ve: 5.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI No(t) Normal), (S1: Normal, No(t) Absent), (S2:
   Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t) Fixed),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   199 K/uL
   130 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.8 mEq/L
   10 mg/dL
   117 mEq/L
   144 mEq/L
   27.3 %
   17.5 K/uL
        [image002.jpg]
                             [**2179-3-11**]  11:49 AM
                             [**2179-3-11**]  04:22 PM
                             [**2179-3-11**]  04:37 PM
                             [**2179-3-11**]  06:41 PM
                             [**2179-3-11**]  09:11 PM
                             [**2179-3-11**]  10:35 PM
                             [**2179-3-12**]  02:11 AM
                             [**2179-3-12**]  02:26 AM
                             [**2179-3-12**]  06:26 AM
                             [**2179-3-12**]  12:10 PM
   WBC
   13.5
   17.5
   Hct
   26.6
   34
   27.3
   Plt
   188
   199
   Cr
   0.8
   0.8
   0.7
   0.8
   TCO2
   22
   24
   22
   23
   23
   24
   Glucose
   169
   219
   155
   130
   Other labs: PT / PTT / INR:13.9/30.9/1.2, ALT / AST:13/27, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:390/187, Differential-Neuts:77.0 %,
   Band:17.0 %, Lymph:1.0 %, Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.4
   mmol/L, Albumin:2.1 g/dL, LDH:540 IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   Acute pancreatitis, necrotozing, s/p ERCP
   RESPIRATORY FAILURE -- multifactorial, likely attributed to by
   intra-abdominal pain, acidosis, fluid resussitation, evolving pleural
   effusions, and possible evolving ARDS.  Monitor respiratory status (RR,
   SaO2, ABG), continue mechanical ventilation, change to AC mode, monitor
   ABG.
   TACHYCARDIA -- multifactorial, including actue pancreatitis, pain,
   intravascular depletion (third spacing), possible blood loss.  Doubt
   primary cardiac event.  Monitor, treat underlying process.
   FLUIDS -- excellent resussitation, with improved CVP and urine output.
   (3rd spacing in context of acute pancreatitis, necrotizing).  Plan
   continue to fluid bolus to CVP>12 cm H2O.  Need to change central line.
   ACUTE PANCREATITIS -- Responding to current support.  Guarded
   condition.  Continue current levle of care.  MOnitor bladder
   pressures.  General Surgery consultation to follow.
   RENAL FUNCTION -- Preserved.  Monitor BUN creat, uo.
   HYPERNATREMIA -- likely due to resussitation fliuds.  Plan provide free
   H2O.
   ACIDOSIS -- Declining HCO3, likley reflect pancreatitis, renal
   insufficincy.  Follow ABG.  Consider HCO3 infusion.
   NUTRITIONAL SUPPORT -- NPO.  Would start TPN if remains NPO.  Consider
   trophic tube feedings (10 cc/hr).
   HYPOCALCEMIA -- check ionoized calcium; replete, may need iv infusion
   ANEMIA -- decline in Hct may in part reflect iv fliuds, but at risk for
   bleeding.  Would re-image abdomen to r/o hemorrhage into pancreatic
   bed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-3-10**] 05:48 PM
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2179-03-13 06:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Vent changed to AC
   -CVP was 13 around 6pm
   -Ordered CT abd/pelvis/chest (Opacity in apex of lung needing to better
   characterize) but pt not keeping contrast down was coming up OG tube so
   test never done
   -Surgery recs: no abdominal coverage needed with antibiotics
   -bladder check 1900 was 12
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-12**] 07:58 PM
   Meropenem - [**2179-3-13**] 05:50 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2179-3-12**] 06:00 PM
   Fentanyl - [**2179-3-12**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2179-3-13**] 12:26 AM
   Pantoprazole (Protonix) - [**2179-3-13**] 01:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to provide [**1-11**] sedation
   Flowsheet Data as of  [**2179-3-13**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.9
C (98.5
   HR: 119 (109 - 125) bpm
   BP: 115/48(69) {102/47(66) - 132/71(90)} mmHg
   RR: 14 (11 - 15) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 8 (7 - 19)mmHg
   Bladder pressure: 14 (12 - 15) mmHg
   Total In:
                                                                  2,920 mL
                                                                    296 mL
   PO:
   TF:
   IVF:
                                                                  2,920 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  1,652 mL
                                                                    925 mL
   Urine:
                                                                  1,302 mL
                                                                    575 mL
   NG:
                                                                    350 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  1,268 mL
                                                                   -629 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 497 (497 - 530) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.33/47/85.[**Numeric Identifier 433**]/23/-1
   Ve: 7 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Gen: Heavily sedated, not responsive to voice or stimuli
   Heart: Tachycardia, no murmurs
   Lungs: Scant crackles in bases bilaterally
   Abd: Tense, stable exam since yesterday but BS now positive
   Ext: Trace LE edema, trace sacral edema
   Labs / Radiology
   207 K/uL
   8.8 g/dL
   113 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.2 mEq/L
   15 mg/dL
   114 mEq/L
   143 mEq/L
   27.1 %
   20.9 K/uL
        [image002.jpg]
                             [**2179-3-12**]  06:26 AM
                             [**2179-3-12**]  12:10 PM
                             [**2179-3-12**]  01:14 PM
                             [**2179-3-12**]  01:35 PM
                             [**2179-3-12**]  05:33 PM
                             [**2179-3-12**]  05:50 PM
                             [**2179-3-12**]  07:03 PM
                             [**2179-3-13**]  12:02 AM
                             [**2179-3-13**]  04:28 AM
                             [**2179-3-13**]  05:04 AM
   WBC
   17.5
   20.9
   Hct
   27.3
   27.1
   Plt
   199
   207
   Cr
   0.8
   0.9
   1.0
   1.2
   1.1
   TCO2
   24
   25
   24
   22
   26
   Glucose
   130
   154
   138
   143
   113
   Other labs: PT / PTT / INR:13.9/32.4/1.2, ALT / AST:[**11-4**], Alk Phos / T
   Bili:69/0.5, Amylase / Lipase:390/187, Differential-Neuts:77.0 %,
   Band:17.0 %, Lymph:1.0 %, Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.0
   mmol/L, Albumin:2.1 g/dL, LDH:547 IU/L, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   This is a 76 yo F with  post ERCP necrotic pancreatitis electively
   intubated to allow fluid resuscitation.
   .
   #. Pancreatitis: No longer requiring fluid to maintain CVP and UOP.
   Abd tense, watching bladder pressures Q12, BS positive and negative
   fluid balance encouraging for improvement.
   - Consider repeat imaging of pancreas to look for phlegmon/indications
   for surgery if fever or HD instability
   - IVF boluses for UOP<50
   -Appreciate Surgery recs
   -NPO
   -ABX with vanc/meropenem
   -Blood cx
   -Aggressive electrolyte repletion
   -Trend [**Doctor First Name 92**]/lipase
   - TPN
   - Nutrition consult for TPN recs
   -          #Respiratory distress: Multifactorial, fluid overload +
   heavy sedation for extreme pain
   -                   Continue on AC for now
   -                    Allow autodiuresis
   #Sedation: Pt. in extreme pain when awake, will likely need to continue
   deep sedation for now given level of pain, but would continue daily
   wake ups
   - fentanyl midazolam
   - daily wake ups
   # Hypernatremia/Hyperchloremia: Improved.
        - Continue D5W maintainance fluid infusion
   .
   #. Anemia: Stable, Hct not trending up or down very quickly
   - Monitor Hct
   .
   #. Hypothyroidism: levothyroxine IV since NPO.
   .
   .
   FEN: IVF, NPO
   .
   PPX:
   -DVT ppx with HSC
   -Pain management fentanyl boluses
   .
   ACCESS: 2 PIV, RIJ TLC, R-Aline
   .
   CODE STATUS: Confirmed Full
   .
   EMERGENCY CONTACT: [**Name (NI) 5152**] (daughter) [**Telephone/Fax (1) 5153**] (cell)
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-3-10**] 05:48 PM
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-03-13 12:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Sedated.
 URINE CULTURE - At [**2179-3-12**] 12:13 PM
 BLOOD CULTURED - At [**2179-3-12**] 12:13 PM
 FEVER - 101.1
F - [**2179-3-12**] 12:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, mechanically ventilated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-3-13**] 05:50 AM
   Vancomycin - [**2179-3-13**] 07:47 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2179-3-12**] 06:00 PM
   Midazolam (Versed) - [**2179-3-12**] 06:00 PM
   Pantoprazole (Protonix) - [**2179-3-13**] 01:42 AM
   Heparin Sodium (Prophylaxis) - [**2179-3-13**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-3-13**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 114 (109 - 125) bpm
   BP: 110/47(67) {102/46(64) - 132/71(90)} mmHg
   RR: 14 (11 - 15) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   CVP: 7 (7 - 15)mmHg
   Bladder pressure: 14 (12 - 15) mmHg
                                Total In:
                                                                  2,920 mL
                                                                    657 mL
   PO:
                                TF:
   IVF:
                                                                  2,920 mL
                                                                    657 mL
   Blood products:
   Total out:
                                                                  1,652 mL
                                                                  1,275 mL
   Urine:
                                                                  1,302 mL
                                                                    925 mL
   NG:
                                                                    350 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  1,268 mL
                                                                   -617 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.33/47/85.[**Numeric Identifier 433**]/23/-1
   Ve: 7.2 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, Tender: , No(t) Obese, Hypoactvie bowel sounds
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   207 K/uL
   113 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.2 mEq/L
   15 mg/dL
   114 mEq/L
   143 mEq/L
   27.1 %
   20.9 K/uL
        [image002.jpg]
                             [**2179-3-12**]  06:26 AM
                             [**2179-3-12**]  12:10 PM
                             [**2179-3-12**]  01:14 PM
                             [**2179-3-12**]  01:35 PM
                             [**2179-3-12**]  05:33 PM
                             [**2179-3-12**]  05:50 PM
                             [**2179-3-12**]  07:03 PM
                             [**2179-3-13**]  12:02 AM
                             [**2179-3-13**]  04:28 AM
                             [**2179-3-13**]  05:04 AM
   WBC
   17.5
   20.9
   Hct
   27.3
   27.1
   Plt
   199
   207
   Cr
   0.8
   0.9
   1.0
   1.2
   1.1
   TCO2
   24
   25
   24
   22
   26
   Glucose
   130
   154
   138
   143
   113
   Other labs: PT / PTT / INR:13.9/32.4/1.2, ALT / AST:[**11-4**], Alk Phos / T
   Bili:69/0.5, Amylase / Lipase:390/187, Differential-Neuts:77.0 %,
   Band:17.0 %, Lymph:1.0 %, Mono:2.0 %, Eos:2.0 %, Lactic Acid:1.0
   mmol/L, Albumin:2.1 g/dL, LDH:547 IU/L, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   Acute pancreatitis, necrotozing, s/p ERCP.  Overall stable, perhaps
   early signs of resolution.
   RESPIRATORY FAILURE -- multifactorial, likely attributed to by
   intra-abdominal pain, acidosis, fluid resussitation, and pleural
   effusions.  Monitor respiratory status (RR, SaO2, ABG), continue
   mechanical ventilation, maintain AC mode, monitor ABG.
   TACHYCARDIA -- multifactorial, including actue pancreatitis, pain,
   intravascular depletion (third spacing), possible blood loss.  Doubt
   primary cardiac event.  Stable. Monitor, treat underlying process.
   FLUIDS -- excellent resussitation, with improved CVP and urine output.
   (3rd spacing in context of acute pancreatitis, necrotizing).  Monitor.
   Allow net diuresis (spontaneou).  Fluid bolus if hypotension.
   ACUTE PANCREATITIS -- Responding to current support.  Guarded
   condition.  Continue current levle of care.  MOnitor bladder
   pressures.  General Surgery consultation to follow.
   RENAL FUNCTION -- Preserved.  Monitor BUN creat, uo.  Consider
   diuretics.
   HYPERNATREMIA -- Resolved.
   ACIDOSIS -- Improved.  Follow bicarb, ABG.
   NUTRITIONAL SUPPORT
 remains NPO.  Start TPN.  Consider trophic tube
   feedings (10 cc/hr).
   HYPOCALCEMIA -- check ionoized calcium; replete, may need iv infusion
   ANEMIA -- Stable.  If further decline, would re-image abdomen to r/o
   hemorrhage into pancreatic bed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-3-10**] 05:48 PM
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2179-03-14 05:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Did not require fluid boluses
   Turned off sedation in early afternoon and has only been minimally
   responsive at 2100
   Performed trial of pressure support
   Started TPN, Nutrition to give recs tomorrow
   Surgery suggested transfer to SICU, but team decided against
   Tried daily wake up and after 12 hours was only minimally responsive,
   pupils 4mm to 1mm w/ light, equal.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-13**] 08:00 PM
   Meropenem - [**2179-3-13**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-13**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-14**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.3
C (100.9
   HR: 117 (113 - 122) bpm
   BP: 155/64(91) {97/45(64) - 157/64(97)} mmHg
   RR: 27 (14 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 10 (7 - 15)mmHg
   Bladder pressure: 16 (14 - 16) mmHg
   Total In:
                                                                  1,223 mL
                                                                     54 mL
   PO:
   TF:
   IVF:
                                                                  1,223 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                  2,245 mL
                                                                    385 mL
   Urine:
                                                                  1,895 mL
                                                                    385 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,022 mL
                                                                   -331 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 284 (284 - 430) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 96%
   ABG: ////
   Ve: 14.7 L/min
   Physical Examination
   Gen: Heavily sedated, not responsive to voice or stimuli
   Heart: Tachycardia, no murmurs
   Lungs: Scant crackles in bases bilaterally
   Abd: less tense than yesterday, slight purplish discoloration of lower
   abdomen. BS absent
   Ext: Trace LE edema, trace sacral edema
   Labs / Radiology
   207 K/uL
   8.8 g/dL
   113 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.2 mEq/L
   15 mg/dL
   114 mEq/L
   143 mEq/L
   27.1 %
   20.9 K/uL
        [image002.jpg]
                             [**2179-3-12**]  06:26 AM
                             [**2179-3-12**]  12:10 PM
                             [**2179-3-12**]  01:14 PM
                             [**2179-3-12**]  01:35 PM
                             [**2179-3-12**]  05:33 PM
                             [**2179-3-12**]  05:50 PM
                             [**2179-3-12**]  07:03 PM
                             [**2179-3-13**]  12:02 AM
                             [**2179-3-13**]  04:28 AM
                             [**2179-3-13**]  05:04 AM
   WBC
   17.5
   20.9
   Hct
   27.3
   27.1
   Plt
   199
   207
   Cr
   0.8
   0.9
   1.0
   1.2
   1.1
   TCO2
   24
   25
   24
   22
   26
   Glucose
   130
   154
   138
   143
   113
   Other labs: PT / PTT / INR:13.9/32.4/1.2, ALT / AST:[**11-4**], Alk Phos / T
   Bili:69/0.5, Amylase / Lipase:210/90, Differential-Neuts:73.0 %,
   Band:3.0 %, Lymph:10.0 %, Mono:10.0 %, Eos:1.0 %, Lactic Acid:1.0
   mmol/L, Albumin:2.1 g/dL, LDH:547 IU/L, Ca++:6.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   This is a 76 yo F with  post ERCP necrotic pancreatitis electively
   intubated to allow fluid resuscitation.
   .
   #. Pancreatitis: Autodiuresing, no longer exhibiting SIRS physiology.
   Amylase/lipase trending down, Abd less tense, bladder pressures down
   and negative fluid balance encouraging for improvement.  WBC increasing
   and increasingly febrile, but this could be [**1-11**] resorption of necrotic
   pancreas. Concerning for development of abscess or phlemon.
   - Consider repeat imaging of pancreas to look for phlegmon/indications
   for surgery if fever or HD instability given increasing WBC.
   - IVF boluses for UOP<50
   -Appreciate Surgery recs
   -TPN
   -ABX with vanc/meropenem
   -Blood cx
   -Aggressive electrolyte repletion
   -Trend [**Doctor First Name 92**]/lipase
   - TPN
   - Nutrition consult for TPN recs
   -          #Respiratory distress: Multifactorial, fluid overload +
   heavy sedation for extreme pain. Failed PS last night.
   -                   Continue on AC for now
   -                    Allow autodiuresis
   #Sedation: Hypertense after manipulation of abdomen and responds to
   fentanyl, will likely need to continue deep sedation for now given
   level of pain, but would continue daily wake ups
   - d/c midazolam continue fentanyl
   - daily wake ups
   # Hypernatremia/Hyperchloremia: Will give 1L D5W today, and recheck
   lytes
   .
   #. Anemia: Hct trended down today, will recheck in afternoon concern
   being for hemorrhagic pancreatitis
   - afternoon Hct
   .
   #. Hypothyroidism: levothyroxine IV since NPO.
   .
   .
   FEN: IVF, NPO
   .
   PPX:
   -DVT ppx with HSC
   -Pain management fentanyl boluses
   .
   ACCESS: LIJ,R-Aline
   .
   CODE STATUS: Confirmed Full
   .
   EMERGENCY CONTACT: [**Name (NI) 5152**] (daughter) [**Telephone/Fax (1) 5153**] (cell)
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-3-10**] 05:48 PM
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-03-14 11:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Daily awakening performed, was off versed and fentanyl drips for approx
   10-12 hrs.
   Hypertensive today, on lower doses of sedation.
   Spontaneously net diuresing.
   TPN started this AM.
   Passed some green stool this AM.
   Bladder pressure measured <10 cmH2O
   History obtained from Medical records
   Patient unable to provide history: Sedated, Mechanical ventilation
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-13**] 08:00 PM
   Meropenem - [**2179-3-14**] 06:02 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-14**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2179-3-14**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.6
C (99.7
   HR: 109 (103 - 122) bpm
   BP: 141/52(79) {97/45(64) - 165/66(98)} mmHg
   RR: 20 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   CVP: 11 (7 - 15)mmHg
   Bladder pressure: 9 (9 - 16) mmHg
   Total In:
                                                                  1,223 mL
                                                                    268 mL
   PO:
   TF:
   IVF:
                                                                  1,223 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  2,245 mL
                                                                    760 mL
   Urine:
                                                                  1,895 mL
                                                                    760 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,022 mL
                                                                   -492 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 284 (284 - 430) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.45/32/107/20/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, Hyperdynamic), (S1: Normal, No(t) Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   No(t) Distended, Tender: diffuse, No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   239 K/uL
   120 mg/dL
   1.3 mg/dL
   20 mEq/L
   3.4 mEq/L
   22 mg/dL
   115 mEq/L
   147 mEq/L
   24.6 %
   24.5 K/uL
        [image002.jpg]
                             [**2179-3-12**]  01:14 PM
                             [**2179-3-12**]  01:35 PM
                             [**2179-3-12**]  05:33 PM
                             [**2179-3-12**]  05:50 PM
                             [**2179-3-12**]  07:03 PM
                             [**2179-3-13**]  12:02 AM
                             [**2179-3-13**]  04:28 AM
                             [**2179-3-13**]  05:04 AM
                             [**2179-3-14**]  04:45 AM
                             [**2179-3-14**]  05:59 AM
   WBC
   20.9
   24.5
   Hct
   27.1
   24.6
   Plt
   207
   239
   Cr
   0.9
   1.0
   1.2
   1.1
   1.3
   TCO2
   25
   24
   22
   26
   23
   Glucose
   154
   138
   143
   113
   120
   Other labs: PT / PTT / INR:13.9/32.4/1.2, ALT / AST:[**8-4**], Alk Phos / T
   Bili:85/0.5, Amylase / Lipase:120/55, Differential-Neuts:70.0 %,
   Band:6.0 %, Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:1.9 g/dL, LDH:577 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   Acute pancreatitis, necrotozing, s/p ERCP.  Overall continues gradual
   clinical improvement.
   RESPIRATORY FAILURE -- multifactorial, likely attributed to by
   intra-abdominal pain, acidosis, fluid resussitation, and pleural
   effusions.  CXR improving.  Monitor respiratory status (RR, SaO2, ABG),
   continue mechanical ventilation, maintain AC mode, monitor ABG.
   TACHYCARDIA -- multifactorial, including actue pancreatitis, pain,
   intravascular depletion (third spacing), possible blood loss.  Doubt
   primary cardiac event.  Stable. Monitor, treat underlying process.
   FLUIDS -- excellent resussitation, with improved CVP and urine output.
   (3rd spacing in context of acute pancreatitis, necrotizing).  Monitor.
   Allow net diuresis (spontaneous).  Fluid bolus if hypotension, but
   desire net negative fluid balance.
   ACUTE PANCREATITIS -- Responding to current support, with good
   progress.  Guarded condition.  Continue current levle of care.  Monitor
   bladder pressures.  General Surgery consultation to follow.
   WBC/bandemia
 may be intraabdominal inflammation but concern for
   complication of necrotising pancreatitis.
 reimage
   ABD Pain
 strictures noted on ERCP.  Needs follow-up
   RENAL FUNCTION -- Preserved.  Monitor BUN creat, uo.  Consider
   diuretics to facilitate net diuresis.
   HYPERNATREMIA -- Improved.  Monitor Na+.  [**Month (only) 11**] need to resume free H2O.
   ACIDOSIS -- Improved.  Follow bicarb, ABG.
   NUTRITIONAL SUPPORT
 remains NPO.  TPN started.  Consider trophic tube
   feedings (10 cc/hr).
   HYPOCALCEMIA -- check ionoized calcium; replete, may need iv infusion
   ANEMIA -- Stable.  If further decline, would re-image abdomen to r/o
   hemorrhage into pancreatic bed.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2179-3-14**] 09:00 AM 11.[**Telephone/Fax (5) 5202**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2179-03-15 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  Post ERCP necrotizing pancreatitis
   24 Hour Events:
   - T 101.6 at 1130P, obtained CXR, Cx peripherally, via A-Line, and
   subclavian.  Started IV Flagyl as CT showed colonic thickening -- can
   be consistent with colitis.  Unable to send C Diff as patient has not
   stooled.  (WBC this AM was 22, unclear source of infection)
   - CT abd/pelvis with contrast.  Showed colonic wall thickening, but no
   evidence of abcess or something that can suggest infectious etiology.
   - Gave 1u PRBCs with lasix
   - Free Ca 1.03 -- Gave 4g Calcium Gluconate
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-14**] 08:24 PM
   Metronidazole - [**2179-3-15**] 12:08 AM
   Meropenem - [**2179-3-15**] 05:52 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2179-3-14**] 11:34 AM
   Heparin Sodium (Prophylaxis) - [**2179-3-14**] 11:00 PM
   Furosemide (Lasix) - [**2179-3-15**] 03:15 AM
   Fentanyl - [**2179-3-15**] 05:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-15**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100.1
   HR: 111 (98 - 125) bpm
   BP: 131/59(83) {101/47(67) - 188/80(120)} mmHg
   RR: 20 (20 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    CVP: 8 (4 - 12)mmHg
   Bladder pressure: 15 (9 - 15) mmHg
                               Total In:
                                                                  2,226 mL
                                                                  1,191 mL
   PO:
                               TF:
   IVF:
                                                                  1,858 mL
                                                                    512 mL
   Blood products:
   375 mL
   Total out:
                                                                  3,565 mL
                                                                  1,375 mL
   Urine:
                                                                  3,565 mL
                                                                  1,375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,339 mL
                                                                   -184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 19 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.44/38/89.[**Numeric Identifier 433**]/23/1
   Ve: 12.7 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Gen: Heavily sedated, not responsive to voice or stimuli
   Heart: Tachycardia, RRR, no murmurs
   Lungs: Scant crackles in bases bilaterally
   Abd: No Bowel Sounds.  Soft.  No guarding present.
   Ext: Trace LE edema, trace sacral edema
   Labs / Radiology
   278 K/uL
   9.5 g/dL
   246 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.8 mEq/L
   27 mg/dL
   110 mEq/L
   142 mEq/L
   28.0 %
   31.0 K/uL
        [image002.jpg]
                             [**2179-3-12**]  05:50 PM
                             [**2179-3-12**]  07:03 PM
                             [**2179-3-13**]  12:02 AM
                             [**2179-3-13**]  04:28 AM
                             [**2179-3-13**]  05:04 AM
                             [**2179-3-14**]  04:45 AM
                             [**2179-3-14**]  05:59 AM
                             [**2179-3-14**]  05:19 PM
                             [**2179-3-15**]  05:23 AM
                             [**2179-3-15**]  05:42 AM
   WBC
   20.9
   24.5
   31.0
   Hct
   27.1
   24.6
   22.9
   28.0
   Plt
   [**Telephone/Fax (3) 5220**]
   Cr
   1.2
   1.1
   1.3
   1.2
   1.3
   TCO2
   24
   22
   26
   23
   27
   Glucose
   143
   113
   120
   225
   246
   Other labs: PT / PTT / INR:12.9/27.2/1.1, ALT / AST:[**8-4**], Alk Phos / T
   Bili:85/0.5, Amylase / Lipase:120/55, Differential-Neuts:70.0 %,
   Band:6.0 %, Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:1.9 g/dL, LDH:577 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.8
   mg/dL
   [**3-14**] CT Abd/Pelvis
   IMPRESSION:
   1. Moderate layering nonhemorrhagic bilateral pleural effusions with
   underlying atelectasis, new in comparison to [**2179-3-9**].
   2. Necrotizing pancreatitis involving greater than 50% of the pancreas.
   Only
   the pancreatic head and a small amount of the pancreatic tail enhance
   normally.
   3. Extensive peripancreatic fluid, without defined collection or gas.
   Ascites
   in the abdomen and pelvis.
   4. Patent, but attenuated splenic vein. Increased size of collateral
   vessels
   indicates compromised splenic vein flow.
   5. Bowel wall thickening of the sigmoid colon, which may be related to
   ascites, although colitis cannot be excluded.
   6. Anasarca.
   Assessment and Plan
   76 yo F with  post ERCP necrotic pancreatitis electively intubated to
   allow fluid resuscitation.
   .
   #. Pancreatitis:  Stable.  Abdominal exam is improving, there is no
   guarding, abdomen is soft.  Has improved since patient has been
   diuresing.  CT abdomen shows no evidence of pseudocyst or hemorrhage.
   Patient has WBC increasing and increasingly febrile, but this could be
   [**1-11**] resorption of necrotic pancreas versus an undefined infectious
   cause.
   - Continue vanc/meropenem and flagyl as below
   - Blood cx
   - Aggressive electrolyte repletion
   - Trend [**Doctor First Name 92**]/lipase
   # Fevers:  Tmax 101.8.  Patient with leukocytosis to 31.  No clear
   infectious source.  Cx from A-line, Subclavian, peripheral sent.
   Patient has not stooled to check C Diff.  CT does show sigmoid bowel
   wall thickening, that could be suggestive of a colitis.
   Fever/elevated WBC count could also be related to necrotizing
   pancreatitis.  Patient does not exhibit septic physiology.
   - Continue Vancomycin/Meropenem
   - Start IV Flagyl for empiric C Diff coverage.
   - If patient clinically worsens, consider PO/PR Vancomycin
   - f/u Cxs
   #Respiratory distress: Multifactorial, fluid overload + heavy sedation
   for extreme pain.   Patient currently intubated, improving with
   diuresis.
   - Continue on AC for now
   - Goal 2L negative today
   #Sedation: Hypertense after manipulation of abdomen and responds to
   fentanyl, will likely need to continue deep sedation for now given
   level of pain, but would continue daily wake ups
   - Wean Fentanyl as tolerated
   - daily wake ups
   # FEN:  Patient
s Na was 142, stable.  Patient on TPN for nutrition.
   .
   #. Anemia: Hct trended down yesterday; HCT responded appropriately to
   1u PRBCs.
   - Trend Hct
   .
   #. Hypothyroidism: levothyroxine IV since NPO.
   .
   .
   FEN: IVF, NPO
   .
   PPX:
   -DVT ppx with HSC
   -Pain management fentanyl boluses
   .
   ACCESS: LIJ,R-Aline
   .
   CODE STATUS: Confirmed Full
   .
   EMERGENCY CONTACT: [**Name (NI) 5152**] (daughter) [**Telephone/Fax (1) 5153**] (cell)
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   TPN without Lipids - [**2179-3-14**] 09:00 AM 43.[**Telephone/Fax (5) 29**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   18 Gauge - [**2179-3-14**] 12:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-03-15 10:48:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2179-3-15**] 12:08 AM
   Meropenem - [**2179-3-15**] 05:52 AM
   Vancomycin - [**2179-3-15**] 08:57 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2179-3-14**] 11:34 AM
   Heparin Sodium (Prophylaxis) - [**2179-3-14**] 11:00 PM
   Furosemide (Lasix) - [**2179-3-15**] 03:15 AM
   Fentanyl - [**2179-3-15**] 05:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-3-15**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100.1
   HR: 115 (98 - 125) bpm
   BP: 105/50(70) {101/47(67) - 188/80(120)} mmHg
   RR: 19 (19 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   CVP: 8 (4 - 8)mmHg
   Bladder pressure: 15 (15 - 15) mmHg
                             Total In:
                                                                  2,226 mL
                                                                  1,616 mL
   PO:
                             TF:
   IVF:
                                                                  1,858 mL
                                                                    783 mL
   Blood products:
   375 mL
   Total out:
                                                                  3,565 mL
                                                                  2,330 mL
   Urine:
                                                                  3,565 mL
                                                                  2,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,339 mL
                                                                   -714 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 32 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.44/38/89.[**Numeric Identifier 433**]/23/1
   Ve: 9.8 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , No(t) Obese, Hypoactive bowel sounds
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   278 K/uL
   246 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.8 mEq/L
   27 mg/dL
   110 mEq/L
   142 mEq/L
   28.0 %
   31.0 K/uL
        [image002.jpg]
                             [**2179-3-12**]  05:50 PM
                             [**2179-3-12**]  07:03 PM
                             [**2179-3-13**]  12:02 AM
                             [**2179-3-13**]  04:28 AM
                             [**2179-3-13**]  05:04 AM
                             [**2179-3-14**]  04:45 AM
                             [**2179-3-14**]  05:59 AM
                             [**2179-3-14**]  05:19 PM
                             [**2179-3-15**]  05:23 AM
                             [**2179-3-15**]  05:42 AM
   WBC
   20.9
   24.5
   31.0
   Hct
   27.1
   24.6
   22.9
   28.0
   Plt
   [**Telephone/Fax (3) 5220**]
   Cr
   1.2
   1.1
   1.3
   1.2
   1.3
   TCO2
   24
   22
   26
   23
   27
   Glucose
   143
   113
   120
   225
   246
   Other labs: PT / PTT / INR:12.9/27.2/1.1, ALT / AST:[**8-4**], Alk Phos / T
   Bili:85/0.5, Amylase / Lipase:120/55, Differential-Neuts:70.0 %,
   Band:6.0 %, Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:1.9 g/dL, LDH:577 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   Acute pancreatitis, necrotozing, s/p ERCP.  Overall continues gradual
   clinical improvement.
   RESPIRATORY FAILURE -- multifactorial, likely attributed to by
   intra-abdominal pain, acidosis, fluid resussitation, and pleural
   effusions.  CXR improving.  Monitor respiratory status (RR, SaO2, ABG),
   continue mechanical ventilation, maintain AC mode, monitor ABG.
   TACHYCARDIA -- multifactorial, including actue pancreatitis, pain,
   intravascular depletion (third spacing), possible blood loss.  Doubt
   primary cardiac event.  Stable. Monitor, treat underlying process.
   FLUIDS -- excellent resussitation, with improved CVP and urine output.
   (3rd spacing in context of acute pancreatitis, necrotizing).  Monitor.
   Allow net diuresis (spontaneous).  Fluid bolus if hypotension, but
   desire net negative fluid balance.
   ACUTE PANCREATITIS -- Responding to current support, with good
   progress.  Guarded condition.  Continue current levle of care.  Monitor
   bladder pressures.  General Surgery consultation to follow.
   FEVER -- recurrent, possible intra-abdminal inflammation.  However,
   WBC/bandemia may reflect intra-abdominal inflammation or  concern for
   complication of necrotising pancreatitis but no evidence by CT scan.
   Also need to monitor for new infection, such as VAP, C. Diff,
   Line-related, bladder catheter-related  (evaluation in progress)
   HYPERGLYCEMIA -- need to add insulin to TPN.   Maintain glucose <150.
   ABD Pain
 strictures noted on ERCP.  Needs follow-up
   RENAL FUNCTION -- Preserved.  Monitor BUN creat, uo.  Consider
   diuretics to facilitate net diuresis.
   NUTRITIONAL SUPPORT
 remains NPO.  TPN started.  Consider trophic tube
   feedings (10 cc/hr).
   ANEMIA -- Stable.  If further decline, would re-image abdomen to r/o
   hemorrhage into pancreatic bed.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2179-3-14**] 09:00 AM 43.[**Telephone/Fax (5) 29**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   18 Gauge - [**2179-3-14**] 12:39 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2179-03-16 06:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -d/c all antibiotics per surgery recs. Surgery believes all spiking is
   due to necrotizing pancreatitis.
   -Surgery rec enteral nutrition thru dubhoff post pyloric tub and trach
   if not off vent by end of week
   -started on insulin gtt, insulin added to TPN, TPN started
   -free water given for sodium 146
   - Hypertensive in response to stimulation
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-15**] 08:57 AM
   Meropenem - [**2179-3-15**] 02:29 PM
   Metronidazole - [**2179-3-15**] 04:26 PM
   Infusions:
   Fentanyl - 160 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-15**] 10:19 PM
   Pantoprazole (Protonix) - [**2179-3-16**] 12:11 AM
   Fentanyl - [**2179-3-16**] 05:00 AM
   Midazolam (Versed) - [**2179-3-16**] 05:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-16**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.6
C (99.6
   HR: 107 (97 - 123) bpm
   BP: 169/64(96) {93/47(62) - 189/75(114)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  3,171 mL
                                                                    642 mL
   PO:
             TF:
   IVF:
                                                                  1,634 mL
                                                                    238 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  4,245 mL
                                                                    775 mL
   Urine:
                                                                  4,245 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,074 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 15 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.48/37/109/25/3
   Ve: 8.4 L/min
   PaO2 / FiO2: 273
   Physical Examination
   Gen: Sedated on the vent, nonresponsive to stimuli or voice
   HEENT: Pupils equal and reactive to light
   Heart: regular, tachycardic, No MRG
   Lungs: Clear anteriorly
   Abd: mildly tense, no flinching on palpation, BS absent, moderately
   firm
   Ext: 1+ pitting edema in upper and lower extremities bilaterally
   Labs / Radiology
   315 K/uL
   8.9 g/dL
   206 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.4 mEq/L
   31 mg/dL
   109 mEq/L
   143 mEq/L
   26.6 %
   35.9 K/uL
        [image002.jpg]
                             [**2179-3-13**]  04:28 AM
                             [**2179-3-13**]  05:04 AM
                             [**2179-3-14**]  04:45 AM
                             [**2179-3-14**]  05:59 AM
                             [**2179-3-14**]  05:19 PM
                             [**2179-3-15**]  05:23 AM
                             [**2179-3-15**]  05:42 AM
                             [**2179-3-15**]  03:11 PM
                             [**2179-3-15**]  10:24 PM
                             [**2179-3-16**]  04:25 AM
   WBC
   20.9
   24.5
   31.0
   35.9
   Hct
   27.1
   24.6
   22.9
   28.0
   27.4
   26.6
   Plt
   [**Telephone/Fax (3) 5243**]15
   Cr
   1.1
   1.3
   1.2
   1.3
   1.2
   TCO2
   26
   23
   27
   28
   Glucose
   113
   120
   225
   246
   206
   Other labs: PT / PTT / INR:13.3/27.2/1.1, ALT / AST:9/35, Alk Phos / T
   Bili:79/0.3, Amylase / Lipase:120/55, Differential-Neuts:70.0 %,
   Band:6.0 %, Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:1.9 g/dL, LDH:558 IU/L, Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   76 yo F with  post ERCP necrotic pancreatitis electively intubated to
   allow fluid resuscitation.
   .
   #. Pancreatitis:  Stable.  Abdominal exam stable, there is no guarding,
   abdomen is softening.  Continues to mobilize fluid on her own.  CT
   abdomen no current indication for immediate surgery.  Patient has WBC
   increasing and increasingly febrile, but this could be [**1-11**] resorption
   of necrotic pancreas versus an undefined infectious cause.
   - stopped  vanc/meropenem and flagyl per surgery recommendations
   - f/u Blood cx
   - electrolyte repletion
   - Trend [**Doctor First Name 92**]/lipase
   - f/u surgery recommendations
   # Fevers:  Tmax 102.5.  Patient with leukocytosis to 35.  No clear
   infectious source, does not appear septic.  All lines cultured.
   Possible c.diff colitis.    Fever/elevated WBC most likely related to
   necrotizing pancreatitis
   - Stopped Vancomycin/Meropenem
   - If patient clinically worsens, consider PO/PR Vancomycin
   - f/u Cxs
   #Respiratory distress: Multifactorial, fluid overload + heavy sedation
   for extreme pain.   Patient currently intubated, improving with
   diuresis.  Mental status appears to be limiting factor in moving her
   toward extubation.
         - Wean sedation
   - Attempt trial of pressure support today after sedation off for
   several hours
   - Diurese Goal 2L negative today
   #HTN: Hypertense after manipulation of abdomen and responds to
   fentanyl, likely that pain is contributing. Given her relative
   hypotension overnight would not start her on any antihypertensives yet.
   - Wean Fentanyl as tolerated by blood pressure
   - daily wake ups
   # FEN:  Patient
s Na was 142, stable.  Patient on TPN for nutrition.
   .
   #. Anemia: Hct phlebotomizing downward; HCT responded appropriately to
   1u PRBCs.  Does not appear severe enough drop to be hemorrhagic
   pancreatitis.
   - Trend Hct
   .
   #. Hypothyroidism: levothyroxine IV since NPO.
   .
   .
   FEN: IVF, NPO
   .
   PPX:
   -DVT ppx with HSC
   -Pain management fentanyl boluses
   .
   ACCESS: L subclavian,R-Aline
   .
   CODE STATUS: Confirmed Full
   .
   EMERGENCY CONTACT: [**Name (NI) 5152**] (daughter) [**Telephone/Fax (1) 5153**] (cell)
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2179-3-15**] 06:09 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   18 Gauge - [**2179-3-14**] 12:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-03-16 12:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanical ventilation.
   Remains sedated.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-15**] 08:57 AM
   Meropenem - [**2179-3-15**] 02:29 PM
   Metronidazole - [**2179-3-15**] 04:26 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-15**] 10:19 PM
   Pantoprazole (Protonix) - [**2179-3-16**] 12:11 AM
   Midazolam (Versed) - [**2179-3-16**] 11:00 AM
   Fentanyl - [**2179-3-16**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-3-16**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.6
C (99.6
   HR: 105 (97 - 123) bpm
   BP: 106/47(68) {89/44(60) - 189/75(114)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
   CVP: 6 (5 - 6)mmHg
   Total In:
                                                                  3,171 mL
                                                                  1,152 mL
   PO:
   TF:
   IVF:
                                                                  1,634 mL
                                                                    389 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  4,245 mL
                                                                  1,225 mL
   Urine:
                                                                  4,245 mL
                                                                  1,225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,074 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.48/37/109/25/3
   Ve: 8.1 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, No(t) Tender: , No(t) Obese, Firm
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   315 K/uL
   206 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.4 mEq/L
   31 mg/dL
   109 mEq/L
   143 mEq/L
   26.6 %
   35.9 K/uL
        [image002.jpg]
                             [**2179-3-13**]  04:28 AM
                             [**2179-3-13**]  05:04 AM
                             [**2179-3-14**]  04:45 AM
                             [**2179-3-14**]  05:59 AM
                             [**2179-3-14**]  05:19 PM
                             [**2179-3-15**]  05:23 AM
                             [**2179-3-15**]  05:42 AM
                             [**2179-3-15**]  03:11 PM
                             [**2179-3-15**]  10:24 PM
                             [**2179-3-16**]  04:25 AM
   WBC
   20.9
   24.5
   31.0
   35.9
   Hct
   27.1
   24.6
   22.9
   28.0
   27.4
   26.6
   Plt
   [**Telephone/Fax (3) 5243**]15
   Cr
   1.1
   1.3
   1.2
   1.3
   1.2
   TCO2
   26
   23
   27
   28
   Glucose
   113
   120
   225
   246
   206
   Other labs: PT / PTT / INR:13.3/27.2/1.1, ALT / AST:9/35, Alk Phos / T
   Bili:79/0.3, Amylase / Lipase:120/55, Differential-Neuts:70.0 %,
   Band:6.0 %, Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:1.9 g/dL, LDH:558 IU/L, Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   Acute pancreatitis, necrotozing, s/p ERCP.  Overall continues gradual
   clinical improvement.
   RESPIRATORY FAILURE -- multifactorial, likely attributed to by
   intra-abdominal pain, acidosis, fluid resussitation, and pleural
   effusions.  CXR stable.  Monitor respiratory status (RR, SaO2, ABG),
   continue mechanical ventilation, maintain AC mode, monitor ABG.
   TACHYCARDIA -- multifactorial, including actue pancreatitis, pain,
   intravascular depletion (third spacing), possible blood loss.  Doubt
   primary cardiac event.  Stable. Monitor, treat underlying process.
   FLUIDS -- excellent resussitation, with improved CVP and urine output.
   (3rd spacing in context of acute pancreatitis, necrotizing).  Monitor.
   Allow net diuresis (spontaneous).  Fluid bolus if hypotension, but
   desire net negative fluid balance.
   ACUTE PANCREATITIS -- Responding to current support, with good
   progress.  Continue current levle of care.  Monitor bladder pressures.
   General Surgery consultation to follow.
   ELEVATED WBC -- attributed to acute pancreatitis.  Monitor.
   FEVER -- recurrent, possible intra-abdminal inflammation.  However,
   WBC/bandemia may reflect intra-abdominal inflammation or  concern for
   complication of necrotising pancreatitis but no evidence by CT scan.
   Also need to monitor for new infection, such as VAP, C. Diff,
   Line-related, bladder catheter-related  (evaluation in progress).
   Monitor off antimicrobials.
   HYPERGLYCEMIA -- need to add insulin to TPN.   Insulin drip.  Maintain
   glucose <150.
   ABD Pain
 strictures noted on ERCP.  Needs follow-up.
   RENAL FUNCTION -- Preserved.  Monitor BUN creat, uo.  Consider
   diuretics to facilitate net diuresis.
   NUTRITIONAL SUPPORT
 remains NPO.  TPN started.  Consider trophic tube
   feedings (10 cc/hr) --> plan for post-pyloric feeding tube placement.
   ANEMIA -- Stable.  If further decline, would re-image abdomen to r/o
   hemorrhage into pancreatic bed.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2179-3-15**] 06:09 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   18 Gauge - [**2179-3-14**] 12:39 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2179-03-17 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  post ERCP necrotic pancreatitis electively intubated
   to allow fluid resuscitation
   24 Hour Events:
   Increased insulin in TPN
   Glucose continued in 300s so restarted insulin drip
   KUB was negative
   Diuresed only 400cc but was relatively [**Name2 (NI) **] so not given more
   lasix until early this morning
   Stopped midaz
   Planned for doboff in IR per surgery
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-15**] 08:57 AM
   Meropenem - [**2179-3-15**] 02:29 PM
   Metronidazole - [**2179-3-15**] 04:26 PM
   Infusions:
   Fentanyl - 90 mcg/hour
   Insulin - Regular - 3.5 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2179-3-16**] 11:00 AM
   Insulin - Regular - [**2179-3-16**] 06:50 PM
   Heparin Sodium (Prophylaxis) - [**2179-3-16**] 09:47 PM
   Fentanyl - [**2179-3-17**] 04:04 AM
   Furosemide (Lasix) - [**2179-3-17**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-17**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.1
C (100.6
   HR: 115 (96 - 117) bpm
   BP: 109/55(74) {89/42(59) - 202/102(129)} mmHg
   RR: 22 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.4 kg (admission): 73 kg
   Height: 64 Inch
    CVP: 6 (5 - 6)mmHg
   Total In:
                                                                  2,389 mL
                                                                    580 mL
   PO:
   TF:
   IVF:
                                                                    709 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  2,785 mL
                                                                  1,900 mL
   Urine:
                                                                  2,785 mL
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -396 mL
                                                                 -1,320 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 470 (470 - 530) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: 7.40/47/86.[**Numeric Identifier **]/28/2
   Ve: 10.1 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Gen: Sedated on the vent, nonresponsive to stimuli or voice
   HEENT: Pupils equal and reactive to light
   Heart: regular, tachycardic, No MRG
   Lungs: Clear anteriorly
   Abd: mildly tense, no flinching on palpation, BS absent, moderately
   firm
   Ext: 1+ pitting edema in upper and lower extremities bilaterally
   Labs / Radiology
   366 K/uL
   8.6 g/dL
   84 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.3 mEq/L
   32 mg/dL
   108 mEq/L
   144 mEq/L
   26.1 %
   37.6 K/uL
        [image002.jpg]
                             [**2179-3-14**]  05:19 PM
                             [**2179-3-15**]  05:23 AM
                             [**2179-3-15**]  05:42 AM
                             [**2179-3-15**]  03:11 PM
                             [**2179-3-15**]  10:24 PM
                             [**2179-3-16**]  04:25 AM
                             [**2179-3-16**]  06:30 PM
                             [**2179-3-16**]  09:29 PM
                             [**2179-3-17**]  03:09 AM
                             [**2179-3-17**]  05:18 AM
   WBC
   31.0
   35.9
   37.6
   Hct
   22.9
   28.0
   27.4
   26.6
   26.1
   Plt
   [**Telephone/Fax (3) 5268**]
   Cr
   1.2
   1.3
   1.2
   1.1
   TCO2
   27
   28
   27
   30
   Glucose
   [**Telephone/Fax (3) 5269**]52
   84
   Other labs: ALT / AST:12/48, Alk Phos / T Bili:94/0.4, Amylase /
   Lipase:135/177, Differential-Neuts:75.0 %, Band:6.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:1.9 g/dL,
   LDH:573 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   76 yo F with  post ERCP necrotic pancreatitis electively intubated to
   allow fluid resuscitation.
   .
   #. Pancreatitis:  Stable.  Abdominal exam stable, there is no guarding,
   abdomen is softening.  Continues to mobilize fluid on her own.  CT
   abdomen no current indication for immediate surgery.  Patient has WBC
   increasing and increasingly febrile, but this could be [**1-11**] resorption
   of necrotic pancreas versus an undefined infectious cause.
   - stopped  vanc/meropenem and flagyl per surgery recommendations
   - f/u Blood cx
   - electrolyte repletion
   - Trend [**Doctor First Name 92**]/lipase
   - f/u surgery recommendations
   # Fevers:  Tmax 102.5.  Patient with leukocytosis to 35.  No clear
   infectious source, does not appear septic.  All lines cultured.
   Possible c.diff colitis.    Fever/elevated WBC most likely related to
   necrotizing pancreatitis
   - Stopped Vancomycin/Meropenem
   - If patient clinically worsens, consider PO/PR Vancomycin
   - f/u Cxs
   #Respiratory distress: Multifactorial, fluid overload + heavy sedation
   for extreme pain.   Patient currently intubated, improving with
   diuresis.  Mental status appears to be limiting factor in moving her
   toward extubation.
         - Wean sedation
   - Attempt trial of pressure support today after sedation off for
   several hours
   - Diurese Goal 2L negative today
   #HTN: Hypertense after manipulation of abdomen and responds to
   fentanyl, likely that pain is contributing. Given her relative
   hypotension overnight would not start her on any antihypertensives yet.
   - Wean Fentanyl as tolerated by blood pressure
   - daily wake ups
   # FEN:  Patient
s Na was 142, stable.  Patient on TPN for nutrition.
   .
   #. Anemia: Hct phlebotomizing downward; HCT responded appropriately to
   1u PRBCs.  Does not appear severe enough drop to be hemorrhagic
   pancreatitis.
   - Trend Hct
   .
   #. Hypothyroidism: levothyroxine IV since NPO.
   .
   .
   FEN: IVF, NPO
   .
   PPX:
   -DVT ppx with HSC
   -Pain management fentanyl boluses
   .
   ACCESS: L subclavian,R-Aline
   .
   CODE STATUS: Confirmed Full
   .
   EMERGENCY CONTACT: [**Name (NI) 5152**] (daughter) [**Telephone/Fax (1) 5153**] (cell)
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2179-3-16**] 05:56 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-03-17 12:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Weaning sedation.
   Somewhat more responsive neurologically.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-15**] 08:57 AM
   Meropenem - [**2179-3-15**] 02:29 PM
   Metronidazole - [**2179-3-15**] 04:26 PM
   Infusions:
   Insulin - Regular - 3.5 units/hour
   Other ICU medications:
   Insulin - Regular - [**2179-3-16**] 06:50 PM
   Heparin Sodium (Prophylaxis) - [**2179-3-16**] 09:47 PM
   Furosemide (Lasix) - [**2179-3-17**] 04:05 AM
   Fentanyl - [**2179-3-17**] 10:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis, No(t) Diarrhea,
   No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-3-17**] 12:53 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.1
C (100.6
   HR: 110 (96 - 120) bpm
   BP: 100/46(63) {80/33(48) - 202/102(129)} mmHg
   RR: 19 (15 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.4 kg (admission): 73 kg
   Height: 64 Inch
             Total In:
                                                                  2,389 mL
                                                                  1,035 mL
   PO:
             TF:
   IVF:
                                                                    709 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  2,785 mL
                                                                  2,440 mL
   Urine:
                                                                  2,785 mL
                                                                  2,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -396 mL
                                                                 -1,405 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 486 (470 - 530) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.40/47/86.[**Numeric Identifier **]/28/2
   Ve: 10.5 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   366 K/uL
   84 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.3 mEq/L
   32 mg/dL
   108 mEq/L
   144 mEq/L
   26.1 %
   37.6 K/uL
        [image002.jpg]
                             [**2179-3-14**]  05:19 PM
                             [**2179-3-15**]  05:23 AM
                             [**2179-3-15**]  05:42 AM
                             [**2179-3-15**]  03:11 PM
                             [**2179-3-15**]  10:24 PM
                             [**2179-3-16**]  04:25 AM
                             [**2179-3-16**]  06:30 PM
                             [**2179-3-16**]  09:29 PM
                             [**2179-3-17**]  03:09 AM
                             [**2179-3-17**]  05:18 AM
   WBC
   31.0
   35.9
   37.6
   Hct
   22.9
   28.0
   27.4
   26.6
   26.1
   Plt
   [**Telephone/Fax (3) 5268**]
   Cr
   1.2
   1.3
   1.2
   1.1
   TCO2
   27
   28
   27
   30
   Glucose
   [**Telephone/Fax (3) 5269**]52
   84
   Other labs: PT / PTT / INR:13.3/27.2/1.1, ALT / AST:12/48, Alk Phos / T
   Bili:94/0.4, Amylase / Lipase:135/177, Differential-Neuts:81.0 %,
   Band:12.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, Albumin:1.9 g/dL, LDH:573 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   Acute pancreatitis, necrotozing, s/p ERCP.  Overall continues gradual
   clinical improvement.
   RESPIRATORY FAILURE -- multifactorial, likely attributed to by
   intra-abdominal pain, acidosis, fluid resussitation, and pleural
   effusions.  CXR stable.  Monitor respiratory status (RR, SaO2, ABG),
   continue mechanical ventilation, maintain AC mode, monitor ABG.
   TACHYCARDIA -- multifactorial, including actue pancreatitis, pain,
   intravascular depletion (third spacing), possible blood loss.  Doubt
   primary cardiac event.  Stable. Monitor, treat underlying process.
   FLUIDS -- excellent resussitation, with improved CVP and urine output.
   (3rd spacing in context of acute pancreatitis, necrotizing).  Monitor.
   Allow net diuresis (spontaneous).  Fluid bolus if hypotension, but
   desire net negative fluid balance.
   ACUTE PANCREATITIS -- ERCP-related.  Responding to current support,
   with good progress.  Mild increase in amylase/lipase --> need to
   monitor.  General Surgery consultation to follow.
   ELEVATED WBC -- attributed to acute pancreatitis.  Now with mounting
   bandemia.  Concern for evolving new infection or infectious
   complication of necrotizing pancreatitis.  Monitor.
   FEVER -- recurrent, possible intra-abdminal inflammation.  However,
   WBC/bandemia may reflect intra-abdominal inflammation or  concern for
   complication of necrotising pancreatitis but no evidence by CT scan.
   Also need to monitor for new infection, such as VAP, C. Diff,
   Line-related, bladder catheter-related  (evaluation in progress).
   Monitor off antimicrobials.
   HYPERGLYCEMIA -- need to add insulin to TPN.   Insulin drip.  Maintain
   glucose <150.
   ABD Pain
 strictures noted on ERCP.  Needs follow-up.
   RENAL FUNCTION -- Preserved.  Monitor BUN creat, uo.  Consider
   diuretics to facilitate net diuresis.
   NUTRITIONAL SUPPORT
 remains NPO.  TPN started.  Consider trophic tube
   feedings (10 cc/hr) --> plan for post-pyloric feeding tube placement
   per IR.
   ANEMIA -- Stable.  If further decline, would re-image abdomen to r/o
   hemorrhage into pancreatic bed.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2179-3-16**] 05:56 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2179-03-18 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   post ERCP necrotic pancreatitis electively intubated to allow fluid
   resuscitation
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-3-15**] 08:57 AM
   Meropenem - [**2179-3-15**] 02:29 PM
   Metronidazole - [**2179-3-15**] 04:26 PM
   Infusions:
   Insulin - Regular - 1.5 units/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2179-3-17**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2179-3-17**] 10:30 PM
   Pantoprazole (Protonix) - [**2179-3-18**] 12:00 AM
   Fentanyl - [**2179-3-18**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-18**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.5
C (99.5
   HR: 106 (106 - 125) bpm
   BP: 141/52(78) {80/33(48) - 208/87(126)} mmHg
   RR: 25 (15 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.4 kg (admission): 73 kg
   Height: 64 Inch
             Total In:
                                                                  1,911 mL
                                                                    536 mL
   PO:
             TF:
   IVF:
                                                                    291 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  4,670 mL
                                                                    685 mL
   Urine:
                                                                  4,670 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,759 mL
                                                                   -149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (369 - 530) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.48/43/104/28/7
   Ve: 13.3 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   541 K/uL
   8.3 g/dL
   59 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.5 mEq/L
   41 mg/dL
   106 mEq/L
   145 mEq/L
   24.9 %
   39.4 K/uL
        [image002.jpg]
                             [**2179-3-15**]  10:24 PM
                             [**2179-3-16**]  04:25 AM
                             [**2179-3-16**]  06:30 PM
                             [**2179-3-16**]  09:29 PM
                             [**2179-3-17**]  03:09 AM
                             [**2179-3-17**]  05:18 AM
                             [**2179-3-17**]  02:32 PM
                             [**2179-3-17**]  09:55 PM
                             [**2179-3-18**]  03:52 AM
                             [**2179-3-18**]  04:03 AM
   WBC
   35.9
   37.6
   39.4
   Hct
   26.6
   26.1
   24.9
   Plt
   [**Telephone/Fax (3) 5299**]
   Cr
   1.2
   1.1
   1.3
   1.3
   TCO2
   28
   27
   30
   32
   33
   Glucose
   [**Telephone/Fax (2) 5300**]
   59
   Other labs: PT / PTT / INR:13.3/27.2/1.1, ALT / AST:18/76, Alk Phos / T
   Bili:105/0.3, Amylase / Lipase:128/130, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:4.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:1.9 g/dL, LDH:598 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   76 yo F with  post ERCP necrotic pancreatitis electively intubated to
   allow fluid resuscitation.
   .
   #. Pancreatitis:  Stable.  Abdominal exam stable, there is no guarding,
   abdomen is softening.  Continues to mobilize fluid on her own.  CT
   abdomen from Sunday showed no current indication for immediate
   surgery.  Patient has WBC increasing and increasingly febrile, but this
   likely secondary to resorption of necrotic pancreas.  Amylase and
   lipase are increasing, unclear etiology.  Patient clinically
   improving.
   - f/u Blood cx
   - electrolyte repletion
   - Trend [**Doctor First Name 92**]/lipase
   - f/u surgery recommendations
   # Fevers:  Tmax 101.4.  Patient with leukocytosis to 37.6.  No clear
   infectious source, does not appear septic.  All lines cultured.
   Possible c.diff colitis.    Fever/elevated WBC most likely related to
   necrotizing pancreatitis
   - If patient clinically worsens, consider broad spectrum Abx
   - Send C Diff.
   #Respiratory distress: Multifactorial, fluid overload + heavy sedation
   for extreme pain.   Patient currently intubated, improving with
   diuresis.  Mental status appears to be limiting factor in moving her
   toward extubation.
           - Wean sedation, as tolerated
   - Diurese Goal 2L negative today
   #HTN: Hypertense after manipulation of abdomen and responds to
   fentanyl, likely that pain is contributing. Given her relative
   hypotension overnight would not start her on any antihypertensives yet.
   - Wean Fentanyl as tolerated by blood pressure
   - daily wake ups
   # FEN:  Patient
s Na was 144, stable.  Patient on TPN for nutrition.
   .
   #. Anemia: Hct phlebotomizing downward; HCT responded appropriately to
   1u PRBCs.  Does not appear severe enough drop to be hemorrhagic
   pancreatitis.
   - Trend Hct
   .
   #. Hypothyroidism: levothyroxine IV since NPO.
   .
   .
   FEN: IVF, NPO, TPN.  Dobhoff by IR.
   .
   PPX:
   -DVT ppx with HSC
   -Pain management fentanyl boluses
   .
   ACCESS: L subclavian,R-Aline
   .
   CODE STATUS: Confirmed Full
   .
   EMERGENCY CONTACT: [**Name (NI) 5152**] (daughter) [**Telephone/Fax (1) 5153**] (cell)
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2179-3-17**] 05:44 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-03-18 10:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated mechanically ventilated.
   Remins off benzodiazipines.
   Now on low dose Fentanyl infusion, and receiving bolus Fentanyl.
   Mental status remains abnormal, eyes open, but not attending.
   Flumazenil trial with only minimal change in altertness, although eyes
   more open and attempting to move arms and legs.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, ETT
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2179-3-15**] 02:29 PM
   Metronidazole - [**2179-3-15**] 04:26 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2179-3-17**] 10:00 PM
   Pantoprazole (Protonix) - [**2179-3-18**] 12:00 AM
   Fentanyl - [**2179-3-18**] 06:50 AM
   Heparin Sodium (Prophylaxis) - [**2179-3-18**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-3-18**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.9
C (100.2
   HR: 116 (106 - 125) bpm
   BP: 149/62(94) {80/33(48) - 208/87(124)} mmHg
   RR: 29 (15 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.4 kg (admission): 73 kg
   Height: 64 Inch
   CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  1,911 mL
                                                                    731 mL
   PO:
   TF:
   IVF:
                                                                    291 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                  4,670 mL
                                                                    885 mL
   Urine:
                                                                  4,670 mL
                                                                    885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,759 mL
                                                                   -154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 370 (369 - 530) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.48/43/104/28/7
   Ve: 12.2 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Restless
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   541 K/uL
   59 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.5 mEq/L
   41 mg/dL
   106 mEq/L
   145 mEq/L
   24.9 %
   39.4 K/uL
        [image002.jpg]
                             [**2179-3-15**]  10:24 PM
                             [**2179-3-16**]  04:25 AM
                             [**2179-3-16**]  06:30 PM
                             [**2179-3-16**]  09:29 PM
                             [**2179-3-17**]  03:09 AM
                             [**2179-3-17**]  05:18 AM
                             [**2179-3-17**]  02:32 PM
                             [**2179-3-17**]  09:55 PM
                             [**2179-3-18**]  03:52 AM
                             [**2179-3-18**]  04:03 AM
   WBC
   35.9
   37.6
   39.4
   Hct
   26.6
   26.1
   24.9
   Plt
   [**Telephone/Fax (3) 5299**]
   Cr
   1.2
   1.1
   1.3
   1.3
   TCO2
   28
   27
   30
   32
   33
   Glucose
   [**Telephone/Fax (2) 5300**]
   59
   Other labs: PT / PTT / INR:13.3/27.2/1.1, ALT / AST:18/76, Alk Phos / T
   Bili:105/0.3, Amylase / Lipase:128/130, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:4.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:1.9 g/dL, LDH:598 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   Acute pancreatitis, necrotozing, s/p ERCP.  Overall continues gradual
   clinical improvement.
   RESPIRATORY FAILURE -- multifactorial, likely attributed to by
   intra-abdominal pain, acidosis, fluid resussitation, and pleural
   effusions.  CXR stable.  Monitor respiratory status (RR, SaO2, ABG),
   continue mechanical ventilation, maintain AC mode, monitor ABG.
   NEUROGICAL STATUS -- Non-focal exam, may reflect sedation/analgesia.
   Poor ability to attend.  Concern for possible intracranial process -->
   consider head CT to assess interhemispheric bleed, bilateral CVA or
   posterior CVA.   Consider narcan trial if continues slow improvement.
   TACHYCARDIA -- multifactorial, including actue pancreatitis, pain,
   intravascular depletion (third spacing), possible blood loss.  Doubt
   primary cardiac event.  Stable. Monitor, treat underlying process.
   HTN -- Variable periods of HTN alternating with normotension or
   relative [**Name (NI) 5305**].  [**Name2 (NI) 11**] be related to level of alertness,
   aggitation/anxiety, or concern for pain.  Monitor.
   FLUIDS -- s/p resussitation, now tolerating net diuresis.  Desire net
   negative fluid balance to baseline weight.
   ACUTE PANCREATITIS -- ERCP-related.  Responding to current support,
   with good progress.  Mild increase in amylase/lipase --> need to
   monitor.  General Surgery consultation to follow.
   ELEVATED WBC -- attributed to acute pancreatitis.  Now with mounting
   bandemia.  Concern for evolving new infection or infectious
   complication of necrotizing pancreatitis.  Monitor.
   FEVER -- recurrent, possible intra-abdminal inflammation.  However,
   WBC/bandemia may reflect intra-abdominal inflammation or  concern for
   complication of necrotising pancreatitis but no evidence by CT scan.
   Also need to monitor for new infection, such as VAP, C. Diff,
   Line-related, bladder catheter-related  (evaluation in progress).
   Monitor off antimicrobials.
   HYPERGLYCEMIA -- improved control with insulin in TPN.   Insulin drip.
   Maintain glucose <150.  Monitor for hypoglycemia.
   ABD PAIN
 strictures noted on ERCP.  Needs follow-up.
   RENAL FUNCTION -- Preserved.  Monitor BUN creat, uo.  Consider
   diuretics to facilitate net diuresis.
   NUTRITIONAL SUPPORT
 remains NPO.  TPN started.  Plan post-pyloric
   feeding tube placement to begin trophic tube feedings (10 cc/hr).
   ANEMIA -- Stable.  If further decline, would re-image abdomen to r/o
   hemorrhage into pancreatic bed.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2179-3-17**] 05:44 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2179-03-19 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FLUOROSCOPY - At [**2179-3-18**] 01:14 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-18**] 08:18 AM
   Fentanyl - [**2179-3-18**] 02:01 PM
   Furosemide (Lasix) - [**2179-3-19**] 01:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-19**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 102 (99 - 119) bpm
   BP: 96/43(59) {96/43(59) - 179/98(109)} mmHg
   RR: 19 (19 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.9 kg (admission): 73 kg
   Height: 64 Inch
    CVP: 6 (4 - 9)mmHg
   Total In:
                                                                  2,013 mL
                                                                    984 mL
   PO:
   TF:
                                                                     18 mL
   IVF:
                                                                    501 mL
                                                                    569 mL
   Blood products:
   Total out:
                                                                  2,785 mL
                                                                    925 mL
   Urine:
                                                                  2,785 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -772 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 558 (370 - 558) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 135
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.55/35/95.[**Numeric Identifier **]/27/7
   Ve: 14.8 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   729 K/uL
   7.9 g/dL
   89 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.6 mEq/L
   47 mg/dL
   103 mEq/L
   141 mEq/L
   23.5 %
   34.9 K/uL
        [image002.jpg]
                             [**2179-3-17**]  03:09 AM
                             [**2179-3-17**]  05:18 AM
                             [**2179-3-17**]  02:32 PM
                             [**2179-3-17**]  09:55 PM
                             [**2179-3-18**]  03:52 AM
                             [**2179-3-18**]  04:03 AM
                             [**2179-3-18**]  11:08 AM
                             [**2179-3-18**]  04:20 PM
                             [**2179-3-19**]  03:46 AM
                             [**2179-3-19**]  03:54 AM
   WBC
   37.6
   39.4
   34.9
   Hct
   26.1
   24.9
   24.6
   23.5
   Plt
   366
   541
   729
   Cr
   1.1
   1.3
   1.3
   1.2
   1.3
   TCO2
   30
   32
   33
   29
   32
   Glucose
   84
   64
   59
   89
   Other labs: PT / PTT / INR:13.3/27.2/1.1, ALT / AST:18/76, Alk Phos / T
   Bili:105/0.3, Amylase / Lipase:128/130, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:4.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:1.9 g/dL, LDH:598 IU/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   76 yo F with  post ERCP necrotic pancreatitis electively intubated to
   allow fluid resuscitation.
   .
   #. Pancreatitis:  Stable.  Abdominal exam stable, there is no guarding,
   abdomen is softening.  Continues to mobilize fluid on her own.  CT
   abdomen from Sunday showed no current indication for immediate
   surgery.  Patient has WBC increasing and continuing to be febrile, but
   this likely secondary to resorption of necrotic pancreas.  Pt had
   decrease in bands today compared to yesterday.  Amylase and lipase were
   increasing but are now starting to trend down.
   - f/u Blood cx
   - electrolyte repletion, will recgheck afternoon lytes
   - Trend [**Doctor First Name 92**]/lipase  qOD
   - f/u surgery recommendations
   .
   # Fevers:  Tmax 102.  Patient with leukocytosis to 39.4.  No clear
   infectious source, does not appear septic.  All lines cultured.
   Possible c.diff colitis.    Fever/elevated WBC most likely related to
   necrotizing pancreatitis
   - If patient clinically worsens, consider broad spectrum Abx
   - C diff neg x1, pt should be cx x2
   -f/u b-glucan and galactomannan
   .
   # Neuro: pt not withdrawing to pain, is flaccid in UE and LE. Non focal
   neuro exam.  Her open eyes and moving her head is an improvement
   compared to yesterday now that sedation is being weaned.  Ddx included
   versed still in her system
   -checked benzo which was + in urine
   -consider flumazenil
   -Will hold off on head CT for now
   -If mental status does not improve after benzos cleared consider
   meningitis (however her necrotizing pancreatitis is currently the
   explanation for her increased WBCs (fever bands today) and her fevers
   .
   #Respiratory distress: Pt had RBSI of 76 this AM and a good gas
   (7.48/43/104/33) on 40% 5/5. Patient currently intubated, improving
   with diuresis.  Mental status appears to be limiting factor in moving
   her toward extubation.
           - goal with diuresis -1.5L
   .
   #HTN: Hypertense after manipulation of abdomen and responds to
   fentanyl, likely that pain is contributing. Given her relative
   hypotension overnight would not start her on any antihypertensives yet.
   - Conitnue to wean Fentanyl as tolerated by blood pressure (indication
   of pain)
   .
   #Hypoglycemia: was 69 this AM
   -got
 amp D 50
   .
   # FEN:  Patient
s Na was 144, stable.  Patient on TPN for nutrition.
   -dubhoff to be placed today by IR
   .
   #. Anemia: Hct phlebotomizing downward; HCT responded appropriately to
   1u PRBCs previously.
   - Trend Hct
   .
   #. Hypothyroidism: levothyroxine IV since NPO.  TSH checked yesterday
   and was in normal range.
   .
   FEN: IVF, NPO, TPN.  Dobhoff by IR.
   .
   PPX:
   -DVT ppx with HSC
   -Pain management fentanyl boluses
   .
   ACCESS: L subclavian,R-Aline
   .
   CODE STATUS: Confirmed Full
   .
   EMERGENCY CONTACT: [**Name (NI) 5152**] (daughter) [**Telephone/Fax (1) 5153**] (cell)
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2179-3-18**] 05:29 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-03-19 12:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Post-pyloric feeding tube placed in IR yesterday.
   Feeding tube blocked this AM.
   Much more alert today.  Able to attend to voice.  Opens and closes
   eyes, protrudes tongue to voice command.
   Wiggles fingers and toes.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Fentanyl - [**2179-3-18**] 02:01 PM
   Furosemide (Lasix) - [**2179-3-19**] 01:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, Nausea, Emesis, Diarrhea,
   Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-3-19**] 12:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 109 (99 - 117) bpm
   BP: 127/48(74) {96/43(59) - 163/98(104)} mmHg
   RR: 30 (19 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.9 kg (admission): 73 kg
   Height: 64 Inch
   CVP: 6 (3 - 8)mmHg
   Total In:
                                                                  2,013 mL
                                                                  1,543 mL
   PO:
   TF:
                                                                     18 mL
   IVF:
                                                                    501 mL
                                                                    739 mL
   Blood products:
   Total out:
                                                                  2,785 mL
                                                                  1,585 mL
   Urine:
                                                                  2,785 mL
                                                                  1,585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -772 mL
                                                                    -42 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 491 (460 - 558) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 135
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.55/35/95.[**Numeric Identifier **]/27/7
   Ve: 14.8 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, Generalized weakness or arms
   and legs
   Labs / Radiology
   7.9 g/dL
   729 K/uL
   89 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.6 mEq/L
   47 mg/dL
   103 mEq/L
   141 mEq/L
   23.5 %
   34.9 K/uL
        [image002.jpg]
                             [**2179-3-17**]  03:09 AM
                             [**2179-3-17**]  05:18 AM
                             [**2179-3-17**]  02:32 PM
                             [**2179-3-17**]  09:55 PM
                             [**2179-3-18**]  03:52 AM
                             [**2179-3-18**]  04:03 AM
                             [**2179-3-18**]  11:08 AM
                             [**2179-3-18**]  04:20 PM
                             [**2179-3-19**]  03:46 AM
                             [**2179-3-19**]  03:54 AM
   WBC
   37.6
   39.4
   34.9
   Hct
   26.1
   24.9
   24.6
   23.5
   Plt
   366
   541
   729
   Cr
   1.1
   1.3
   1.3
   1.2
   1.3
   TCO2
   30
   32
   33
   29
   32
   Glucose
   84
   64
   59
   89
   Other labs: PT / PTT / INR:13.3/27.2/1.1, ALT / AST:18/76, Alk Phos / T
   Bili:105/0.3, Amylase / Lipase:128/130, Differential-Neuts:87.0 %,
   Band:1.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:4.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:1.9 g/dL, LDH:598 IU/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   Acute pancreatitis, necrotozing, s/p ERCP.  Overall continues gradual
   clinical improvement.
   RESPIRATORY FAILURE -- multifactorial, likely attributed to by
   intra-abdominal pain, acidosis, fluid resussitation, and pleural
   effusions.  CXR stable.  Monitor respiratory status (RR, SaO2, ABG),
   continue mechanical ventilation, maintain AC mode, monitor ABG.
   NEUROGICAL STATUS -- Continues to improve mental status --> likely
   medication related.  Generalized weakness likely reflects critical care
   illness myopathy.
   TACHYCARDIA -- multifactorial, including actue pancreatitis, pain,
   intravascular depletion (third spacing), possible blood loss.  Stable.
   Monitor, treat underlying process.
   HTN -- Variable periods of HTN alternating with normotension or
   relative [**Name (NI) 5305**].  [**Name2 (NI) 11**] be related to level of alertness,
   aggitation/anxiety, or concern for pain.  Monitor.
   FLUIDS -- s/p resussitation, now tolerating net diuresis.  Desire net
   negative fluid balance to baseline weight.
   ACUTE PANCREATITIS -- ERCP-related.  Responding to current support,
   with good progress.  Mild increase in amylase/lipase --> need to
   monitor.  General Surgery consultation to follow.
   ELEVATED WBC -- attributed to acute pancreatitis.  Now with mounting
   bandemia.  Concern for evolving new infection or infectious
   complication of necrotizing pancreatitis.  Monitor.
   FEVER -- recurrent, possible intra-abdminal inflammation.  However,
   WBC/bandemia may reflect intra-abdominal inflammation or  concern for
   complication of necrotising pancreatitis but no evidence by CT scan.
   Also need to monitor for new infection, such as VAP, C. Diff,
   Line-related, bladder catheter-related  (evaluation in progress).
   Monitor off antimicrobials.
   HYPERGLYCEMIA -- improved control with insulin in TPN.   Insulin drip.
   Maintain glucose <150.  Monitor for hypoglycemia.
   ABD PAIN
 strictures noted on ERCP.  Needs follow-up.
   RENAL FUNCTION -- Preserved.  Monitor BUN creat, uo.  Consider
   diuretics to facilitate net diuresis.
   NUTRITIONAL SUPPORT
 remains NPO.  Receiving TPN.  Plan post-pyloric
   feeding tube placed for trophic tube feedings (10 cc/hr).
   ANEMIA -- Stable.  If further decline, would re-image abdomen to r/o
   hemorrhage into pancreatic bed.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2179-3-18**] 05:29 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2179-3-10**] 10:26 PM
   Multi Lumen - [**2179-3-12**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2179-03-20 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient extuated, mental status intact
   - Negative 800cc
   - HCT stable
   - d/c A-Line
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Insulin - Regular - 1.5 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2179-3-19**] 01:13 PM
   Heparin Sodium (Prophylaxis) - [**2179-3-19**] 10:06 PM
   Morphine Sulfate - [**2179-3-20**] 02:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-20**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.9
C (98.5
   HR: 96 (92 - 113) bpm
   BP: 133/61(76) {112/50(65) - 147/71(87)} mmHg
   RR: 22 (17 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.9 kg (admission): 73 kg
   Height: 64 Inch
    CVP: 7 (4 - 7)mmHg
   Total In:
                                                                  2,204 mL
                                                                    342 mL
   PO:
   TF:
                                                                     18 mL
   IVF:
                                                                    841 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  2,940 mL
                                                                    540 mL
   Urine:
                                                                  2,940 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -736 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 491 (491 - 508) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.52/39/95.[**Numeric Identifier **]/28/7
   Ve: 14.8 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Gen: A/O to person, place, speaking tangentially, mumbling some words
   Heart: Tachycardic, No MRG
   Lungs: CTAB
   Abd: Soft, nontender, BS+
   Ext: 1+ pitting edema
   Neuro: slight movement of hands, CNII-XII intact, slight movement of
   feet. No sensory deficit. No clonus, normal knee reflexes.
   Labs / Radiology
   875 K/uL
   7.5 g/dL
   86 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.5 mEq/L
   45 mg/dL
   106 mEq/L
   144 mEq/L
   22.9 %
   26.6 K/uL
        [image002.jpg]
                             [**2179-3-17**]  09:55 PM
                             [**2179-3-18**]  03:52 AM
                             [**2179-3-18**]  04:03 AM
                             [**2179-3-18**]  11:08 AM
                             [**2179-3-18**]  04:20 PM
                             [**2179-3-19**]  03:46 AM
                             [**2179-3-19**]  03:54 AM
                             [**2179-3-19**]  03:18 PM
                             [**2179-3-19**]  03:38 PM
                             [**2179-3-20**]  04:20 AM
   WBC
   39.4
   34.9
   26.6
   Hct
   24.9
   24.6
   23.5
   22.8
   22.9
   Plt
   [**Telephone/Fax (3) 5325**]
   Cr
   1.3
   1.3
   1.2
   1.3
   1.2
   TCO2
   33
   29
   32
   33
   Glucose
   64
   59
   89
   86
   Other labs: PT / PTT / INR:13.3/27.2/1.1, ALT / AST:18/76, Alk Phos / T
   Bili:105/0.3, Amylase / Lipase:128/130, Differential-Neuts:81.0 %,
   Band:4.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:598 IU/L, Ca++:7.7 mg/dL, Mg++:2.4 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
   76 yo F with  post ERCP necrotic pancreatitis electively intubated to
   allow fluid resuscitation.
   .
   #. Pancreatitis: Improving, BS+, surgery thinks that she will need
   procedure to remove dead pancreas/likely pseudocyst that will form in
   center of pancreas.
          - consider transfer to surgery when out of unit.
   - f/u Blood cx
   - electrolyte repletion,
   - Trend [**Doctor First Name 92**]/lipase  qOD
   - f/u surgery recommendations
   .
   # Fevers:  Fevers trending downward, WBC trending down, no septic
   physiology.
   - If patient clinically worsens, consider broad spectrum Abx, imaging
   and surgery
   - C diff neg x1, pt should be cx x2
   -f/u b-glucan negative galactomannan pending
   .
   # Neuro: Mental status significantly improving with withdrawl of
   midazolam. Pt. still w/ significant difficulty moving arms. Likely ICU
   myopathy/residual benzo effect.
   .
   #Respiratory distress: Extubated today, satting well on shovel mask
   - diurese goal negative 1L
   - wean O2
   .
   #HTN: Improved
   - continue diuresis
   .
   .
   # FEN:  Patient
s Na was 144, stable.  Patient on TPN for nutrition.
   -per surgery will keep on TPN
   .
   #. Anemia: Hct phlebotomizing downward; HCT responded appropriately to
   1u PRBCs previously.
   - Trend Hct
   .
   #. Hypothyroidism: levothyroxine IV since NPO.  TSH checked yesterday
   and was in normal range.
   .
   FEN: IVF, NPO, TPN.
   .
   PPX:
   -DVT ppx with HSC
   -Pain management fentanyl boluses
   .
   ACCESS: L subclavian,
   - discontinue arterial line
   .
   CODE STATUS: Confirmed Full
   .
   EMERGENCY CONTACT: [**Name (NI) 5152**] (daughter) [**Telephone/Fax (1) 5153**] (cell)
   .
   DISPOSITION: ICU for now, if remains stable will consider call out to
   surgery tomorrow
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2179-3-19**] 06:00 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-3-19**] 01:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-03-20 12:49:00 Physician Attending Progress Note
Chief Complaint: abdominal pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo female s/p ERCP for nec pancreatitis
   Extubated yesterday
   Concerns for ICU myopathy with extremity weakness but intact DTR's
   24 Hour Events:
 MULTI LUMEN - STOP [**2179-3-19**] 01:00 PM
 MULTI LUMEN - START [**2179-3-19**] 01:01 PM
 ARTERIAL LINE - STOP [**2179-3-19**] 03:27 PM
 FEVER - 101.5
F - [**2179-3-19**] 08:00 AM
   *Diuresed 800 cc
   *A-line removed
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1.5 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2179-3-19**] 01:13 PM
   Morphine Sulfate - [**2179-3-20**] 02:24 AM
   Heparin Sodium (Prophylaxis) - [**2179-3-20**] 08:00 AM
   Other medications:
   synthroid, PPI, fentanyl patch, Insulin gtt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-20**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.5
C (97.7
   HR: 93 (92 - 106) bpm
   BP: 132/56(74) {112/50(65) - 147/71(87)} mmHg
   RR: 19 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.9 kg (admission): 73 kg
   Height: 64 Inch
   CVP: 5 (4 - 7)mmHg
   Total In:
                                                                  2,204 mL
                                                                    623 mL
   PO:
   TF:
                                                                     18 mL
   IVF:
                                                                    841 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,940 mL
                                                                    835 mL
   Urine:
                                                                  2,940 mL
                                                                    835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -736 mL
                                                                   -212 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 97%
   ABG: 7.52/39/95.[**Numeric Identifier **]/28/7
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Well nourished, No acute distress, conversant
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub
   Peripheral Vascular: (+DP pulses
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: hypoactive bs  present, mildly distended
   Extremities: RUE>LUE
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal, difficulty lifting
   extremities against gravity
   Labs / Radiology
   7.5 g/dL
   875 K/uL
   86 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.5 mEq/L
   45 mg/dL
   106 mEq/L
   144 mEq/L
   22.9 %
   26.6 K/uL
        [image002.jpg]
                             [**2179-3-17**]  09:55 PM
                             [**2179-3-18**]  03:52 AM
                             [**2179-3-18**]  04:03 AM
                             [**2179-3-18**]  11:08 AM
                             [**2179-3-18**]  04:20 PM
                             [**2179-3-19**]  03:46 AM
                             [**2179-3-19**]  03:54 AM
                             [**2179-3-19**]  03:18 PM
                             [**2179-3-19**]  03:38 PM
                             [**2179-3-20**]  04:20 AM
   WBC
   39.4
   34.9
   26.6
   Hct
   24.9
   24.6
   23.5
   22.8
   22.9
   Plt
   [**Telephone/Fax (3) 5325**]
   Cr
   1.3
   1.3
   1.2
   1.3
   1.2
   TCO2
   33
   29
   32
   33
   Glucose
   64
   59
   89
   86
   Other labs: PT / PTT / INR:13.3/27.2/1.1, ALT / AST:18/76, Alk Phos / T
   Bili:105/0.3, Amylase / Lipase:128/130, Differential-Neuts:81.0 %,
   Band:4.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:598 IU/L, Ca++:7.7 mg/dL, Mg++:2.4 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN TISSUE PERFUSION
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE PAIN
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PANCREATITIS, ACUTE
 INEFFECTIVE COPING
   76 yo female with necrotizing pancreatitis
   1. Necrotizing pancreatitis
   WBC decreasing, still with intermittent fevers, remains on bowel
   rest/TPN. Ultimately plans for surgery for necrotic pancreas  (~ weeks)
   2. Respiratory failure- now extubated. Remains mildly volume overloaded
   for hospital stay, gently diurese
   3. Weakness: diffusely weak since extubation with difficulty lifting
   extremities off bed
 will need PT
   4. Hyperglycemia: remains on insulin gtt and insulin in TPN- will try
   to transition to SQ insulin and see if we can wean off insulin gtt
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2179-3-19**] 06:00 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-3-19**] 01:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Pt is critically ill

2179-03-21 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   post ERCP necrotic pancreatitis electively intubated to allow fluid
   resuscitation
   24 Hour Events:
   d/c Fent gtt, swicted to Patch
   Transitioned to SC insulin
   HCT stable
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-20**] 04:00 PM
   Furosemide (Lasix) - [**2179-3-20**] 08:30 PM
   Pantoprazole (Protonix) - [**2179-3-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-21**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.7
   HR: 95 (85 - 103) bpm
   BP: 128/54(73) {93/41(55) - 146/65(81)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.9 kg (admission): 73 kg
   Height: 64 Inch
    CVP: 5 (5 - 5)mmHg
   Total In:
                                                                  1,033 mL
                                                                    315 mL
   PO:
   TF:
   IVF:
                                                                    159 mL
                                                                     42 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    755 mL
   Urine:
                                                                  1,650 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -617 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   76 yo F with  post ERCP necrotic pancreatitis electively intubated to
   allow fluid resuscitation.
   .
   #. Pancreatitis: Improving, BS+, surgery thinks that she will need
   procedure to remove dead pancreas/likely pseudocyst that will form in
   center of pancreas.
          - consider transfer to surgery when out of unit.
   - f/u Blood cx
   - electrolyte repletion,
   - Trend [**Doctor First Name 92**]/lipase  qOD
   - f/u surgery recommendations
   .
   # Fevers:  Fevers trending downward, WBC trending down, no septic
   physiology.
   - If patient clinically worsens, consider broad spectrum Abx, imaging
   and surgery
   - C diff neg x1, pt should be cx x2
   -f/u b-glucan negative galactomannan pending
   .
   # Neuro: Mental status significantly improving with withdrawl of
   midazolam. Pt. still w/ significant difficulty moving arms. Likely ICU
   myopathy/residual benzo effect.
   .
   #Respiratory distress: Extubated today, satting well on shovel mask
   - diurese goal negative 1L
   - wean O2
   .
   #HTN: Improved
   - continue diuresis
   .
   .
   # FEN:  Patient
s Na was 144, stable.  Patient on TPN for nutrition.
   -per surgery will keep on TPN
   .
   #. Anemia: Hct phlebotomizing downward; HCT responded appropriately to
   1u PRBCs previously.
   - Trend Hct
   .
   #. Hypothyroidism: levothyroxine IV since NPO.  TSH checked yesterday
   and was in normal range.
   .
   FEN: IVF, NPO, TPN.
   .
   PPX:
   -DVT ppx with HSC
   -Pain management fentanyl boluses
   .
   ACCESS: L subclavian,
   - discontinue arterial line
   .
   CODE STATUS: Confirmed Full
   .
   EMERGENCY CONTACT: [**Name (NI) 5152**] (daughter) [**Telephone/Fax (1) 5153**] (cell)
   .
   DISPOSITION: ICU for now, if remains stable will consider call out to
   surgery tomorrow
   Labs / Radiology
   1117 K/uL
   7.5 g/dL
   125 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   38 mg/dL
   108 mEq/L
   146 mEq/L
   23.5 %
   31.0 K/uL
        [image002.jpg]
                             [**2179-3-18**]  04:03 AM
                             [**2179-3-18**]  11:08 AM
                             [**2179-3-18**]  04:20 PM
                             [**2179-3-19**]  03:46 AM
                             [**2179-3-19**]  03:54 AM
                             [**2179-3-19**]  03:18 PM
                             [**2179-3-19**]  03:38 PM
                             [**2179-3-20**]  04:20 AM
                             [**2179-3-20**]  04:24 PM
                             [**2179-3-21**]  03:49 AM
   WBC
   34.9
   26.6
   31.0
   Hct
   24.6
   23.5
   22.8
   22.9
   23.5
   23.5
   Plt
   [**Telephone/Fax (1) 5335**]
   Cr
   1.2
   1.3
   1.2
   1.2
   1.2
   TCO2
   33
   29
   32
   33
   Glucose
   89
   86
   118
   125
   Other labs: PT / PTT / INR:13.3/27.2/1.1, ALT / AST:30/56, Alk Phos / T
   Bili:108/0.4, Amylase / Lipase:92/112, Differential-Neuts:81.0 %,
   Band:4.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:615 IU/L, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   76 yo F with  post ERCP necrotic pancreatitis electively intubated to
   allow fluid resuscitation.
   .
   #. Pancreatitis: Improving, BS+, surgery thinks that she will need
   procedure to remove dead pancreas/likely pseudocyst that will form in
   center of pancreas.
          - consider transfer to surgery when out of unit.
   - f/u Blood cx
   - electrolyte repletion,
   - Trend [**Doctor First Name 92**]/lipase  qOD
   - f/u surgery recommendations
   .
   # Fevers:  Fevers trending downward, WBC trending down, no septic
   physiology.
   - If patient clinically worsens, consider broad spectrum Abx, imaging
   and surgery
   - C diff neg x1, pt should be cx x2
   -f/u b-glucan negative galactomannan pending
   .
   # Neuro: Mental status significantly improving with withdrawl of
   midazolam. Pt. still w/ significant difficulty moving arms. Likely ICU
   myopathy/residual benzo effect.
   .
   #Respiratory distress: Extubated today, satting well on shovel mask
   - diurese goal negative 1L
   - wean O2
   .
   #HTN: Improved
   - continue diuresis
   .
   .
   # FEN:  Patient
s Na was 144, stable.  Patient on TPN for nutrition.
   -per surgery will keep on TPN
   .
   #. Anemia: Hct phlebotomizing downward; HCT responded appropriately to
   1u PRBCs previously.
   - Trend Hct
   .
   #. Hypothyroidism: levothyroxine IV since NPO.  TSH checked yesterday
   and was in normal range.
   .
   FEN: IVF, NPO, TPN.
   .
   PPX:
   -DVT ppx with HSC
   -Pain management fentanyl boluses
   .
   ACCESS: L subclavian,
   - discontinue arterial line
   .
   CODE STATUS: Confirmed Full
   .
   EMERGENCY CONTACT: [**Name (NI) 5152**] (daughter) [**Telephone/Fax (1) 5153**] (cell)
   .
   DISPOSITION: ICU for now, if remains stable will consider call out to
   surgery tomorrow
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2179-3-20**] 09:00 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-3-19**] 01:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-03-21 11:22:00 Physician Attending Progress Note
Chief Complaint: abd pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo female with necroticizing pancreatitis
   24 Hour Events:
   Fentanyl gtt stopped
   changed from insulin gtt to SQ insulin
                            History obtained from [**Hospital 31**] Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Statins: Hmg-Coa Reductase Inhibitors
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-20**] 04:00 PM
   Furosemide (Lasix) - [**2179-3-20**] 08:30 PM
   Pantoprazole (Protonix) - [**2179-3-21**] 12:00 AM
   Other medications:
   levothryroxine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis
   Flowsheet Data as of  [**2179-3-21**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.1
   HR: 95 (85 - 103) bpm
   BP: 126/66(82) {93/41(55) - 146/66(82)} mmHg
   RR: 21 (17 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.9 kg (admission): 73 kg
   Height: 64 Inch
   CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  1,033 mL
                                                                    534 mL
   PO:
   TF:
   IVF:
                                                                    159 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                  1,005 mL
   Urine:
                                                                  1,650 mL
                                                                  1,005 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -617 mL
                                                                   -471 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Crackles : minimal at bases)
   Abdominal: Soft, Bowel sounds present, less tender, no guarding/rebound
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   7.5 g/dL
   1117 K/uL
   125 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   38 mg/dL
   108 mEq/L
   146 mEq/L
   23.5 %
   31.0 K/uL
        [image002.jpg]
                             [**2179-3-18**]  04:03 AM
                             [**2179-3-18**]  11:08 AM
                             [**2179-3-18**]  04:20 PM
                             [**2179-3-19**]  03:46 AM
                             [**2179-3-19**]  03:54 AM
                             [**2179-3-19**]  03:18 PM
                             [**2179-3-19**]  03:38 PM
                             [**2179-3-20**]  04:20 AM
                             [**2179-3-20**]  04:24 PM
                             [**2179-3-21**]  03:49 AM
   WBC
   34.9
   26.6
   31.0
   Hct
   24.6
   23.5
   22.8
   22.9
   23.5
   23.5
   Plt
   [**Telephone/Fax (1) 5335**]
   Cr
   1.2
   1.3
   1.2
   1.2
   1.2
   TCO2
   33
   29
   32
   33
   Glucose
   89
   86
   118
   125
   Other labs: PT / PTT / INR:13.3/27.2/1.1, ALT / AST:30/56, Alk Phos / T
   Bili:108/0.4, Amylase / Lipase:92/112, Differential-Neuts:81.0 %,
   Band:4.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:615 IU/L, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN TISSUE PERFUSION
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE PAIN
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PANCREATITIS, ACUTE
 INEFFECTIVE COPING
   76 yo female with necrotizing pancreatitis and prolonged ICU course
   including resp failure- extubated [**3-18**]
   1. Pancreatitis: appears to be doing well, with decreased abdominal
   pain. WBC remains high, but expected. Off antibiotics, galactomanan
   still pending
   Continue bowel rest/TPN
   2. HTN: controlled on current meds.
   3. Hyperglycemia: transitioned to SQ insulin
   4. Elevated plts: suspect reactive process to pancreatitis. No acute
   intervention, continue to monitor
   Rest of plan as per ICU team
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2179-3-20**] 09:00 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-3-19**] 01:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To floor
   Total time spent: